2155-02-25 12:23:00 Physician Attending Progress Note
Chief Complaint: Tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Recently discharged from MICU service ([**2155-2-22**]), transferred to floor.
   This AM, noted to have tachycardia during morning floor rounds.  No
   symptoms.  Transient hypotension (SBP = 90 mmHg).  ECG reportedly
   demonstrated A-flutter with 2:1 block.
   Received iv lopressor x 3, then diltiazem with good effect, but
   transient.  HR remains 150-155.  Transferred back to MICU for further
   evaluation and management.
   Pt. remains NPO.  Pt. awake, alert, but answering with simple phrases.
   Somewhat reserved.
   In MICU, received adenosine iv dose at bedside with bradycardia and
   obvious flutter waves on continuous ECG.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-2-25**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   BP: 127/61(84) {0/0(0) - 0/0(0)} mmHg
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, s/p surgical repair
   righ face
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Firm to touch, diffusely.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   243 K/uL
   86 mg/dL
   1.1 mg/dL
   40 mEq/L
   3.7 mEq/L
   19 mg/dL
   88 mEq/L
   133 mEq/L
   27.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2155-2-19**]  03:38 AM
                             [**2155-2-19**]  04:09 PM
                             [**2155-2-19**]  06:12 PM
                             [**2155-2-19**]  06:26 PM
                             [**2155-2-20**]  05:21 AM
                             [**2155-2-20**]  06:35 PM
                             [**2155-2-21**]  04:27 AM
                             [**2155-2-21**]  02:55 PM
                             [**2155-2-21**]  05:07 PM
                             [**2155-2-22**]  03:12 AM
   WBC
   9.8
   9.3
   9.6
   8.0
   Hct
   26.6
   26.1
   27.4
   27.9
   Plt
   [**Telephone/Fax (3) 11388**]43
   Cr
   1.4
   0.6
   1.5
   1.3
   1.2
   1.1
   1.1
   TCO2
   33
   39
   45
   Glucose
   67
   44
   85
   68
   81
   94
   86
   Other labs: PT / PTT / INR:13.3/25.3/1.1, ALT / AST:18/40, Alk Phos / T
   Bili:202/, Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1
   %, Mono:7.7 %, Eos:0.8 %, D-dimer:2192 ng/mL, Lactic Acid:0.7 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   TACHYCARDIA -- increased from baseline tachycardia (100-120).
   Relatively asymptomatic.  ECG apprears as flutter --> trial of
   adenosine.  Rate control now with Diltiazem drip.  EP consultation to
   assess for chemical vs. electrical cardioversion.
   HYPOTENTION -- relative hypotension for this patient, although
   clinically acceptable (MAP> 65mmHg).  Monitor
   SEIZURES -- no clinical evidence for motor seizure.  With transient and
   reversible mental status changes, need to consider partial complex
   seizures (temporal lobe locus of CNS abnormalities).  Would check
   continuous EEG, consider repeat Neurological consulation to
   specifically address question of paritial complex seizures.  Continue
   Keppra.
   FLUIDS -- net volume depleted.  Plan to replete.
   NUTRIONAL SUPPORT -- NPO.  Speech/Swallow to evaluate.  [**Month (only) 60**] need to
   consider PEG if unable to reliably take po
   CML -- s/p transplant, complicated by chronic GVHD and bronchiolitis
   obliterans.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-02-26 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - placed foley
   - concern for aspiration pneumonitis vs. pneumonia, will cover if
   spikes -> added sputum cx
   - cont dilt gtt
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-2-25**] 01:10 PM
   Azithromycin - [**2155-2-25**] 05:19 PM
   Acyclovir - [**2155-2-25**] 09:00 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Adenosine - [**2155-2-25**] 12:08 PM
   Diltiazem - [**2155-2-25**] 01:50 PM
   Morphine Sulfate - [**2155-2-26**] 05:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-26**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 81 (80 - 164) bpm
   BP: 107/59(70) {81/46(56) - 107/72(77)} mmHg
   RR: 26 (13 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,395 mL
                                                                    137 mL
   PO:
             TF:
   IVF:
                                                                  1,395 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                    487 mL
                                                                    200 mL
   Urine:
                                                                    487 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    908 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   GENERAL: Cachectic Caucasian Male lying down in bed
   HEENT: OS PERRL, tape noted over OD. EOMI with OS testing. Left side of
   face notable for scar repair.
   CARDIAC: Tachycardiac, loud  S1, S2. No murmurs, rubs or [**Last Name (un) 1792**].
   ?regular
   LUNGS: Diminished over LLL otherwise CTAB
   ABDOMEN: NABS, Scaphoid, Soft, NT, ND. No HSM
   EXTREMITIES: No edema noted.
   NEURO: Orientated x 3
   Labs / Radiology
   254 K/uL
   8.1 g/dL
   80 mg/dL
   1.2 mg/dL
   30 mEq/L
   5.1 mEq/L
   27 mg/dL
   97 mEq/L
   134 mEq/L
   26.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2155-2-19**]  06:26 PM
                             [**2155-2-20**]  05:21 AM
                             [**2155-2-20**]  06:35 PM
                             [**2155-2-21**]  04:27 AM
                             [**2155-2-21**]  02:55 PM
                             [**2155-2-21**]  05:07 PM
                             [**2155-2-22**]  03:12 AM
                             [**2155-2-25**]  09:59 AM
                             [**2155-2-25**]  11:40 AM
                             [**2155-2-26**]  05:24 AM
   WBC
   9.3
   9.6
   8.0
   9.1
   8.3
   Hct
   26.1
   27.4
   27.9
   28.3
   26.0
   Plt
   232
   262
   243
   242
   254
   Cr
   1.3
   1.2
   1.1
   1.1
   0.6
   1.0
   1.2
   TropT
   0.02
   0.03
   0.05
   TCO2
   33
   39
   45
   Glucose
   68
   81
   94
   86
   42
   54
   80
   Other labs: PT / PTT / INR:13.3/25.3/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7
   %, Eos:0.8 %, D-dimer:2192 ng/mL, Lactic Acid:0.7 mmol/L, LDH:186 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   .
   NPO STATUS:
   This is a major barrier to all of his treatment issues.  Pt currently
   not tolerating PO intake, has been noted to have increased coughing
   with medications/liquids. Will keep him NPO for now with video swallow
   planned for tomorrow AM. As mentioned previously family did not want
   trach placed, NGT also undesirable/impossible given his recent nasal
   intubation, sinusitis. Pt has poor opening of his mouth which would
   make an OGT difficult too. Can consider TPN vs PPN whilst pt is NPO
   however the concern would be whether this would be anything more than a
   short term solution.  Dr. [**Last Name (STitle) 1750**] will discuss PEG with the family
   shortly.
   - f/u S&S eval tomorrow.
   - NPO for now
   .
 ATRIAL FLUTTER (AFLUTTER) with [**Last Name (STitle) **]
   PO Diltiazem would be ideal however given he could not tolerate any PO
   meds this AM and he is currently requiring a diltiazem gtt. Speech and
   swallow are aware of him and will see him today. Adenosine EKG shows
   clear A. flutter 2:1 with a rate of 150. t EP consult felt that D/C
   cardioversion would be definitive treatment for A. Flutter, however
   with new pneumonitis would hold off unitl
nidus
 resolves. Further D/C
   Cardioversion is complicated by the difficulty in protecting his airway
   for sedation, and amiodarone is obviously a poor choice given his
   underlying bonchiolitis obliterans.  Pt has h.o. of Heparin allergy. In
   terms of the causes of his A. flutter with [**Name (NI) **] pt recently had an Echo
   performed [**2-6**] which showed no evidence of valvular disease given his
   history ischaemic injury is also low on the differential. Will check
   TSH, T4 level.
   - continue IV diltiazem gtt if pt is persistently in A. flutter with
   [**Month/Day (4) **]
   - Speech & swallow assessment tomorrow to determine whether pt is OK to
   start PO regimen which would be ideal
   - if no PO, would discuss PEG with family
   - Dr. [**Last Name (STitle) 1750**] to discuss ablation with Dr. [**Last Name (STitle) **].  Will need
   bivalirudin if we are considering ablation and wait until tomorrow
   .
   Chemical Pneumonitis: Pt noted to have a RLL infiltrate on CXR, likely
   chemical pneumonitis from his aspiration event. No leukocytosis is
   noted on lab draw, no fevers. His A. flutter predates his aspiration
   event so it is unlikely to be the cause of his A. flutter. It could be
   a factor in keep him in flutter if it develops into a PNA. Will not
   treat for aspiration PNA given lack of infectious signs. If pt become
   febrile or demonstrates leukocytosis would have a low threshold to put
   on abx coverage for aspiration PNA.
   .
 ALKALOSIS, METABOLIC
   Likely contraction alkalosis given his recent history of poor PO
   intake. His Creatinine is 1.0, which is likely high given his current
   body habitus. Pt currently receiving NS IVF given his low BP prior to
   dilt gtt initiation. Will continue to monitor I/Os, pt is going to
   undergo speech and swallow eval today. On prior discussions with the
   family they have decided against PEG tubes. NGT would be undesirable
   given his severe sinus disease and recent nasal intubation.
   - f/u S&S tomorrow
   - follow electrolytes
   .
   Acute Kidney Injury
   Suspect pre-renal for the same reason as above.
   -Bolus 1L NS
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans. Pt was on
   prednisone taper as an outpatient, will continue on IV
   methylprednisolone equivalent dose as he is strictly NPO.
   - cont methylpred, for the moment with plans for taper
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 ANEMIA, OTHER
   Pt has chronic anemia with prior Hcts noted to be 25-26. On admission
   is Hct was 33, however may be hemoconcentrated as he was clinically dry
   on exam. Repeat Hct from floor draw was 19, no reports of hematochezia,
   melena. Will review Metavision records to determine if pt had a femoral
   line which would place him at risk for RP bld. However given the time
   interval would be atypical.
   - will recheck Hct
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Pt was initially admitted with AMS that was thought to be possibly
   seizures given his known temporal lobe mass versus delirium given his
   initial underlying PNA. Since his extubation last week he has remained
   orientated to person, place, time.
   - cont to monitor patient for signs of AMS
   ICU Care
   Nutrition: NPO for now, replete lytes
   Glycemic Control:
   Lines: Rt Midline, 2 ports
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI IV
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending resolution of symptoms
   ------ Protected Section ------

2155-02-26 11:25:00 Physician Attending Progress Note
Chief Complaint: Tachycardia, a-flutter
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tachycardia improved on iv diltiazem drip.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-2-25**] 01:10 PM
   Azithromycin - [**2155-2-25**] 05:19 PM
   Acyclovir - [**2155-2-26**] 08:56 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Adenosine - [**2155-2-25**] 12:08 PM
   Diltiazem - [**2155-2-25**] 01:50 PM
   Morphine Sulfate - [**2155-2-26**] 05:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-2-26**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 82 (80 - 164) bpm
   BP: 102/50(61) {81/46(56) - 107/72(77)} mmHg
   RR: 14 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,395 mL
                                                                    421 mL
   PO:
             TF:
   IVF:
                                                                  1,395 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                    487 mL
                                                                    330 mL
   Urine:
                                                                    487 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    908 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   254 K/uL
   80 mg/dL
   1.2 mg/dL
   30 mEq/L
   5.1 mEq/L
   27 mg/dL
   97 mEq/L
   134 mEq/L
   26.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2155-2-19**]  06:26 PM
                             [**2155-2-20**]  05:21 AM
                             [**2155-2-20**]  06:35 PM
                             [**2155-2-21**]  04:27 AM
                             [**2155-2-21**]  02:55 PM
                             [**2155-2-21**]  05:07 PM
                             [**2155-2-22**]  03:12 AM
                             [**2155-2-25**]  09:59 AM
                             [**2155-2-25**]  11:40 AM
                             [**2155-2-26**]  05:24 AM
   WBC
   9.3
   9.6
   8.0
   9.1
   8.3
   Hct
   26.1
   27.4
   27.9
   28.3
   26.0
   Plt
   232
   262
   243
   242
   254
   Cr
   1.3
   1.2
   1.1
   1.1
   0.6
   1.0
   1.2
   TropT
   0.02
   0.03
   0.05
   TCO2
   33
   39
   45
   Glucose
   68
   81
   94
   86
   42
   54
   80
   Other labs: PT / PTT / INR:13.3/25.3/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7
   %, Eos:0.8 %, D-dimer:2192 ng/mL, Lactic Acid:0.7 mmol/L, LDH:186 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   TACHYCARDIA -- increased from baseline tachycardia (100-120).
   Relatively asymptomatic.  Trial of adenosine supported a-flutter.  Rate
   controlled now with Diltiazem drip.  EP consultation supported chemical
   cardioversion.  Need to determine alternate regimen.  Cardiology to
   advise on defibrillation, ablation or continued chemical treatment.
   Chemical treatment limited by inability to take PO regimen at this
   time.
   PULMONARY INFILTRATES -- new progressive RLL infiltrate, concern for
   aspiration event.  Low threshold for antimicrobials.
   HYPOTENTION -- relative hypotension for this patient, although
   clinically acceptable (MAP> 65mmHg).  Monitor BP and MAP.
   SEIZURES -- no clinical evidence for motor seizure.  With transient and
   reversible mental status changes, need to consider partial complex
   seizures (temporal lobe locus of CNS abnormalities).  Would check
   continuous EEG, consider repeat Neurological consulation to
   specifically address question of paritial complex seizures.  Continue
   Keppra.
   FLUIDS -- net volume depleted.  Plan to continue to replete.  Monitor
   I/O.
   NUTRIONAL SUPPORT -- NPO.  Speech/Swallow to evaluate.  [**Month (only) 60**] need to
   consider PEG (likely surgical will be require) if unable to reliably
   take po
   GVHD
 continue current level of care.
   CML -- s/p transplant, complicated by chronic GVHD and bronchiolitis
   obliterans.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-02-27 07:29:00 Physician Resident Progress Note
Chief Complaint: atrial flutte with [** **]
   24 Hour Events:
   - Dr [**Last Name (STitle) 1750**] discussing flutter ablation with patient, [**Doctor Last Name **]
   - wants us to start bival/argatroban to buy time
   - S+S couldnt do a bedside, plan for video swallow in AM
   - received 1.5 liters total of bolus yesterday for marginal UOP
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAmphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-2-25**] 05:19 PM
   Bactrim (SMX/TMP) - [**2155-2-26**] 03:18 PM
   Acyclovir - [**2155-2-26**] 08:00 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2155-2-27**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   c/o upper back pain in bed, dry mouth; denies chest pain, SOB, (-)
   n/v/d/f/c
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: Foley
   Flowsheet Data as of  [**2155-2-27**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.4
C (95.7
   HR: 81 (81 - 86) bpm
   BP: 122/63(76) {102/47(60) - 123/67(77)} mmHg
   RR: 20 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,481 mL
                                                                    148 mL
   PO:
             TF:
   IVF:
                                                                  2,481 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    210 mL
   Urine:
                                                                    825 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,656 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   281 K/uL
   8.2 g/dL
   86 mg/dL
   1.2 mg/dL
   32 mEq/L
   5.0 mEq/L
   29 mg/dL
   99 mEq/L
   137 mEq/L
   26.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2155-2-20**]  06:35 PM
                             [**2155-2-21**]  04:27 AM
                             [**2155-2-21**]  02:55 PM
                             [**2155-2-21**]  05:07 PM
                             [**2155-2-22**]  03:12 AM
                             [**2155-2-25**]  09:59 AM
                             [**2155-2-25**]  11:40 AM
                             [**2155-2-26**]  05:24 AM
                             [**2155-2-26**]  03:16 PM
                             [**2155-2-27**]  03:17 AM
   WBC
   9.6
   8.0
   9.1
   8.3
   10.6
   Hct
   27.4
   27.9
   28.3
   26.0
   26.2
   Plt
   [**Telephone/Fax (3) 11434**]54
   281
   Cr
   1.2
   1.1
   1.1
   0.6
   1.0
   1.2
   1.3
   1.2
   TropT
   0.02
   0.03
   0.05
   TCO2
   39
   45
   Glucose
   81
   94
   86
   42
   54
   80
   117
   86
   Other labs: PT / PTT / INR:13.3/25.3/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7
   %, Eos:0.8 %, D-dimer:2192 ng/mL, Lactic Acid:0.7 mmol/L, LDH:186 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   ECG: typical atrial flutter with 4:1 block
   Assessment and Plan
 ATRIAL FLUTTER (AFLUTTER)
   with [**Telephone/Fax (3) **]
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   Assessment and Plan
   .
   NPO STATUS:
   This is a major barrier to all of his treatment issues.  Pt currently
   not tolerating PO intake, has been noted to have increased coughing
   with medications/liquids. Will keep him NPO for now with video swallow
   planned for today. As mentioned previously family did not want trach
   placed, NGT also undesirable/impossible given his recent nasal
   intubation, sinusitis. Pt has poor opening of his mouth which would
   make an OGT difficult too. Can consider TPN vs PPN whilst pt is NPO
   however the concern would be whether this would be anything more than a
   short term solution.  Dr. [**Last Name (STitle) 1750**] will discuss PEG with the family and
   patient.
   - f/u S&S eval today
   - NPO for now
   - will need to revisit nutrition, PEG vs TPN/PPN vs PO intake, pending
   video swallow eval
   .
 ATRIAL FLUTTER (AFLUTTER) with [**Last Name (STitle) **]
   PO Diltiazem would be ideal however given he could not tolerate any PO
   meds this AM and he is currently requiring a diltiazem gtt. Speech and
   swallow are aware of him and will see him today. Adenosine EKG shows
   clear A. flutter 2:1 with a rate of 150. t EP consult felt that D/C
   cardioversion would be definitive treatment for A. Flutter, however
   with new pneumonitis would hold off unitl
nidus
 resolves. Further D/C
   Cardioversion is complicated by the difficulty in protecting his airway
   for sedation, and amiodarone is obviously a poor choice given his
   underlying bonchiolitis obliterans.  Pt has h.o. of Heparin allergy. In
   terms of the causes of his A. flutter with [**Name (NI) **] pt recently had an Echo
   performed [**2-6**] which showed no evidence of valvular disease given his
   history ischaemic injury is also low on the differential.
   - continue IV diltiazem gtt if pt is persistently in A. flutter with
   [**Month/Day (4) **] -> will decrease dilt gtt and start lopressor 2.5 mg IV Q6 in
   attempt to wean off dilt gtt
   - Speech & swallow assessment today to determine whether pt is OK to
   start PO regimen which would be ideal
   - if no PO, would discuss PEG with family
   - Dr. [**Last Name (STitle) 1750**] to discuss ablation with Dr. [**Last Name (STitle) **].  Started
   agratroban in anticipation of possible ablation
   .
   >  Chemical Pneumonitis: Pt noted to have a RLL infiltrate on CXR,
   likely chemical pneumonitis from his aspiration event. No leukocytosis
   is noted on lab draw, no fevers. His A. flutter predates his aspiration
   event so it is unlikely to be the cause of his A. flutter. It could be
   a factor in keep him in flutter if it develops into a PNA. Will not
   treat for aspiration PNA given lack of infectious signs. If pt become
   febrile or demonstrates leukocytosis would have a low threshold to put
   on abx coverage for aspiration PNA.
   .
 ALKALOSIS, METABOLIC
   Likely contraction alkalosis given his recent history of poor PO
   intake. His Creatinine is 1.0, which is likely high given his current
   body habitus. Pt currently receiving NS IVF given his low BP prior to
   dilt gtt initiation. Will continue to monitor I/Os, pt is going to
   undergo speech and swallow eval today. On prior discussions with the
   family they have decided against PEG tubes. NGT would be undesirable
   given his severe sinus disease and recent nasal intubation.
   - f/u S&S today
   - follow electrolytes
   .
   >  Renal Insufficiency
   Suspect pre-renal for the same reason as above.  Now resolved
   -Bolus 1L NS
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans. Pt was on
   prednisone taper as an outpatient, will continue on IV
   methylprednisolone equivalent dose as he is strictly NPO.
   - cont methylpred, for the moment with plans for taper
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 ANEMIA, OTHER
   Pt has chronic anemia with prior Hcts noted to be 25-26. On admission
   is Hct was 33, however may be hemoconcentrated as he was clinically dry
   on exam. Repeat Hct from floor draw was 19, no reports of hematochezia,
   melena. Will review Metavision records to determine if pt had a femoral
   line which would place him at risk for RP bld. However given the time
   interval would be atypical.  B12 level normal
   - follow Hct
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Pt was initially admitted with AMS that was thought to be possibly
   seizures given his known temporal lobe mass versus delirium given his
   initial underlying PNA. Since his extubation last week he has remained
   orientated to person, place, time.
   - cont to monitor patient for signs of AMS
   >  ? Aspiration Pneumonitis/Hypoxia- no fever, white count, will cont
   to defer antibiotics at this time.  Chest film suggests progressive
   right pleural effusion.
   - fluid goal today even to one liter negative via PRN lasix
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:   argatroban
   Stress ulcer:   pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 44**] pending transition from dilt gtt to lopressor IV

2155-02-27 09:11:00 Physician Attending Progress Note
Chief Complaint: Tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains in atrial flutter, rate controlled on diltiazem drip.
   Plan to initiate argatroban this AM, in anticipation of ablation
   treatment for a-flutter.
   Remains NPO.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-2-25**] 05:19 PM
   Bactrim (SMX/TMP) - [**2155-2-26**] 03:18 PM
   Acyclovir - [**2155-2-26**] 08:00 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2155-2-27**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-2-27**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.4
C (95.7
   HR: 81 (81 - 86) bpm
   BP: 122/63(76) {102/47(60) - 123/67(77)} mmHg
   RR: 20 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,481 mL
                                                                    176 mL
   PO:
             TF:
   IVF:
                                                                  2,481 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    210 mL
   Urine:
                                                                    825 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,656 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , Bronchial: right
   posterior, No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Firm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   281 K/uL
   86 mg/dL
   1.2 mg/dL
   32 mEq/L
   5.0 mEq/L
   29 mg/dL
   99 mEq/L
   137 mEq/L
   26.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2155-2-20**]  06:35 PM
                             [**2155-2-21**]  04:27 AM
                             [**2155-2-21**]  02:55 PM
                             [**2155-2-21**]  05:07 PM
                             [**2155-2-22**]  03:12 AM
                             [**2155-2-25**]  09:59 AM
                             [**2155-2-25**]  11:40 AM
                             [**2155-2-26**]  05:24 AM
                             [**2155-2-26**]  03:16 PM
                             [**2155-2-27**]  03:17 AM
   WBC
   9.6
   8.0
   9.1
   8.3
   10.6
   Hct
   27.4
   27.9
   28.3
   26.0
   26.2
   Plt
   [**Telephone/Fax (3) 11434**]54
   281
   Cr
   1.2
   1.1
   1.1
   0.6
   1.0
   1.2
   1.3
   1.2
   TropT
   0.02
   0.03
   0.05
   TCO2
   39
   45
   Glucose
   81
   94
   86
   42
   54
   80
   117
   86
   Other labs: PT / PTT / INR:13.3/25.3/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7
   %, Eos:0.8 %, D-dimer:2192 ng/mL, Lactic Acid:0.7 mmol/L, LDH:186 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   TACHYCARDIA -- increased from baseline tachycardia (100-120).
   Relatively asymptomatic.  Rate controlled now with Diltiazem drip -->
   EP consultation following.  Discussion currently supports
   defibrillation or ablation.  Chemical treatment limited by inability to
   take PO regimen at this time.  Cardiac echo performed this AM --> await
   results.
   PULMONARY INFILTRATES -- new progressive RLL infiltrate, concern for
   aspiration event.  Monitor off antimicrobials.  Low threshold for
   antimicrobials.
   HYPOTENTION -- relative hypotension for this patient, although
   clinically acceptable (MAP> 65mmHg).  Monitor BP and MAP.
   SEIZURES -- no clinical evidence for motor seizure.  With transient and
   reversible mental status changes, need to consider partial complex
   seizures (temporal lobe locus of CNS abnormalities).  Would check
   continuous EEG, consider repeat Neurological consulation to
   specifically address question of paritial complex seizures.  Continue
   Keppra.
   FLUIDS -- net volume replete, now expanded.  Plan to resume diuresis.
   Plan 0.5 L net negative.   Monitor I/O.
   NUTRIONAL SUPPORT -- NPO.  Speech/Swallow to evaluation poor/inadequate
   --> video swallow study.  [**Month (only) 60**] need to consider PEG (likely surgical
   will be require) if unable to reliably take po
   GVHD
 continue current level of care.
   CML -- s/p transplant, complicated by chronic GVHD and bronchiolitis
   obliterans.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-02-28 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - after extensive discussions all around, no ablation, did not give
   argatroban
   - failed video swallow [**3-11**] diffuse muscle weakness and delayed all
   phases of swallowing, thought is this represents general deconditioning
   (per [**Doctor Last Name 1750**], not really asked to S&S) and maybe giving temporary
   nutrition could bridge to improved swallowing
   - [**Doctor Last Name 1750**] discussed G-tube as this "bridge," pt just wants to
   eat..unclear what will happen but gen [**Doctor First Name 458**] to see pt and eval if even
   decent PEG candidate given skin issues
   - held off Lasix since pt very dry and thirsty, extremely uncomfortable
   all day with diffuse pain requiring frequent morphine
   - titrated up metoprolol, 2.5 to 5 to 10, minimal response, at 15,
   dropped pressures and UOP, got 250cc bolus
   - [**Doctor Last Name 1750**] discussed PEG
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-2-27**] 03:00 PM
   Azithromycin - [**2155-2-27**] 07:55 PM
   Acyclovir - [**2155-2-27**] 09:09 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2155-2-28**] 12:37 AM
   Metoprolol - [**2155-2-28**] 01:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-2-28**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 129 (81 - 145) bpm
   BP: 93/62(70) {85/44(58) - 121/69(81)} mmHg
   RR: 17 (15 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                    988 mL
                                                                    313 mL
   PO:
             TF:
   IVF:
                                                                    988 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    140 mL
   Urine:
                                                                    840 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                    173 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   298 K/uL
   9.1 g/dL
   80 mg/dL
   1.5 mg/dL
   34 mEq/L
   4.8 mEq/L
   31 mg/dL
   101 mEq/L
   142 mEq/L
   29.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2155-2-21**]  04:27 AM
                             [**2155-2-21**]  02:55 PM
                             [**2155-2-21**]  05:07 PM
                             [**2155-2-22**]  03:12 AM
                             [**2155-2-25**]  09:59 AM
                             [**2155-2-25**]  11:40 AM
                             [**2155-2-26**]  05:24 AM
                             [**2155-2-26**]  03:16 PM
                             [**2155-2-27**]  03:17 AM
                             [**2155-2-28**]  06:17 AM
   WBC
   9.6
   8.0
   9.1
   8.3
   10.6
   12.0
   Hct
   27.4
   27.9
   28.3
   26.0
   26.2
   29.8
   Plt
   [**Telephone/Fax (3) 11448**]
   Cr
   1.2
   1.1
   1.1
   0.6
   1.0
   1.2
   1.3
   1.2
   1.5
   TropT
   0.02
   0.03
   0.05
   TCO2
   45
   Glucose
   81
   94
   86
   42
   54
   80
   117
   86
   80
   Other labs: PT / PTT / INR:13.6/25.0/1.2, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7
   %, Eos:0.8 %, D-dimer:2192 ng/mL, Lactic Acid:0.7 mmol/L, LDH:186 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   NPO STATUS:
   This is a major barrier to all of his treatment issues.  Pt currently
   not tolerating PO intake, has been noted to have increased coughing
   with medications/liquids. Video swallow shows diffuse weakness.Surgical
   evaluation for PEG today, which will require another discussion with
   Dr. [**Last Name (STitle) 1750**] after. Would be in favor of  PPN as a short term solution.
   - NPO for now
   .
 ATRIAL FLUTTER (AFLUTTER) with [**Last Name (STitle) **]
   PO Diltiazem would be ideal however given he could not tolerate any PO
   meds this AM and he is currently requiring a diltiazem gtt. Speech and
   swallow are aware of him and will see him today. Adenosine EKG shows
   clear A. flutter 2:1 with a rate of 150. t EP consult felt that D/C
   cardioversion would be definitive treatment for A. Flutter, however
   with new pneumonitis would hold off unitl
nidus
 resolves. Further D/C
   Cardioversion is complicated by the difficulty in protecting his airway
   for sedation, and amiodarone is obviously a poor choice given his
   underlying bonchiolitis obliterans.  Pt has h.o. of Heparin allergy. In
   terms of the causes of his A. flutter with [**Name (NI) **] pt recently had an Echo
   performed [**2-6**] which showed no evidence of valvular disease given his
   history ischaemic injury is also low on the differential.
   - would restart IV diltiazem gtt if pt is persistently in A. flutter
   with [**Month/Day (4) **] -> will try intermittent Dilt
   - Need PEG to start oral dilt
   - No ablation
   .
   >  Aspiration Pneumonia: Pt noted to have a persistnet/increasing RLL
   infiltrate on CXR, and newly elevated white count.  His A. flutter
   predates his aspiration event so it is unlikely to be the cause of his
   A. flutter. It could be a factor in keep him in flutter if it develops
   into a PNA. At this point, given our previously stated low threshold
   would start abx.
   .
 ALKALOSIS, METABOLIC
   Likely contraction alkalosis given his recent history of poor PO
   intake. His Creatinine is 1.0, which is likely high given his current
   body habitus. Pt currently receiving NS IVF given his low BP prior to
   dilt gtt initiation. Will continue to monitor I/Os, pt is going to
   undergo speech and swallow eval today. On prior discussions with the
   family they have decided against PEG tubes. NGT would be undesirable
   given his severe sinus disease and recent nasal intubation.
   - f/u S&S today
   - follow electrolytes
   .
   >  Acute Renal Insufficiency
   Creatinine now elevated above baseline, patient not eating or drinking,
   would attempt to address with PPN at this point.
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans. Pt was on
   prednisone taper as an outpatient, will continue on IV
   methylprednisolone equivalent dose as he is strictly NPO.
   - cont methylpred, for the moment with plans for taper
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 ANEMIA, OTHER
   Pt has chronic anemia with prior Hcts noted to be 25-26. On admission
   is Hct was 33, however may be hemoconcentrated as he was clinically dry
   on exam. Repeat Hct from floor draw was 19, no reports of hematochezia,
   melena. Will review Metavision records to determine if pt had a femoral
   line which would place him at risk for RP bld. However given the time
   interval would be atypical.  B12 level normal
   - follow Hct
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Pt was initially admitted with AMS that was thought to be possibly
   seizures given his known temporal lobe mass versus delirium given his
   initial underlying PNA. Since his extubation last week he has remained
   orientated to person, place, time.
   - cont to monitor patient for signs of AMS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:   argatroban
   Stress ulcer:   pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 44**] pending transition from dilt gtt to lopressor IV
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-02-28 09:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced progressive recurrent tachycardia over this AM.
   Progressive somnulance and confusion overnight.
   Exhibited significant clinical decline.  At the beginning of AM rounds
   exhibited somnulance, although with spontaneous ventilation.  Venous
   ABG pH< 7.15 pCO2= 110.  WBC elevated.  Exhibited hypotension,
   requireing iv fluid bolus, and initiating vasopressor with good
   response.
   Intubated during AM rounds (anesthesia performed bronchoscopic-directed
   right nasal intubation) without complications.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2155-2-27**] 03:00 PM
   Azithromycin - [**2155-2-27**] 07:55 PM
   Acyclovir - [**2155-2-28**] 08:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-2-28**] 07:44 AM
   Metoprolol - [**2155-2-28**] 07:45 AM
   Morphine Sulfate - [**2155-2-28**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   Somnulant
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-2-28**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.3
C (95.5
   HR: 84 (82 - 145) bpm
   BP: 74/57(61) {74/53(61) - 121/69(81)} mmHg
   RR: 17 (15 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                    988 mL
                                                                    552 mL
   PO:
             TF:
   IVF:
                                                                    988 mL
                                                                    552 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    145 mL
   Urine:
                                                                    840 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                    407 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.14/113/31/34/3
   PaO2 / FiO2: 31
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: right
   base, No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Firm diffusely; vitiligo
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   298 K/uL
   80 mg/dL
   1.5 mg/dL
   34 mEq/L
   4.8 mEq/L
   31 mg/dL
   101 mEq/L
   142 mEq/L
   29.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2155-2-21**]  02:55 PM
                             [**2155-2-21**]  05:07 PM
                             [**2155-2-22**]  03:12 AM
                             [**2155-2-25**]  09:59 AM
                             [**2155-2-25**]  11:40 AM
                             [**2155-2-26**]  05:24 AM
                             [**2155-2-26**]  03:16 PM
                             [**2155-2-27**]  03:17 AM
                             [**2155-2-28**]  06:17 AM
                             [**2155-2-28**]  08:26 AM
   WBC
   8.0
   9.1
   8.3
   10.6
   12.0
   Hct
   27.9
   28.3
   26.0
   26.2
   29.8
   Plt
   243
   242
   254
   281
   298
   Cr
   1.1
   1.1
   0.6
   1.0
   1.2
   1.3
   1.2
   1.5
   TropT
   0.02
   0.03
   0.05
   TCO2
   45
   41
   Glucose
   94
   86
   42
   54
   80
   117
   86
   80
   Other labs: PT / PTT / INR:13.6/25.0/1.2, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:79.2 %, Lymph:12.1 %, Mono:7.7
   %, Eos:0.8 %, D-dimer:2192 ng/mL, Lactic Acid:1.7 mmol/L, LDH:186 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- predominately ventilatory failure, suspect
   multifactorial, attributed to evolving RLL pneumonia (aspiration),
   perhaps component of narcotic use (pain management).  Consider
   pulmonary embolism (new recent tachycardia).  Plan CT scan (consider
   CTA), consider bronchoscopy to inspect airway patency.  Plan continue
   mechanical ventilation, sample respiratory tract secretions, monitor
   ABG.  Will need to initiate discussions with family to proceed with
   tracheostomy tube if acceptable to patient.
   HYPOTENSION -- attributed to sepsis and hypovolemia.  Doubt primary
   cardiac (intrinsic ishcemia, valvular heart disease or dyrhythmia).
   Await cardiac echo results (? RV dysfuction), monitor ECG and cardiac
   enzymes.  Monitor BP and MAP, maintain MAP >60 mmHg.
   TACHYCARDIA -- A-flutter, controlled on Diltiazem, then lopressor.
   Currently off diltiazem and lopressor while hypotensive.  Hope to
   resume chemical control.  No plans for ablation procedure.
   PULMONARY INFILTRATES -- new progressive RLL infiltrate, suspect
   aspiration event --> now likely aspiration pneumonia.  Plan broad
   antimicrobials to cover for HCAP.
   SEIZURES -- no clinical evidence for motor seizure.  With transient and
   reversible mental status changes, need to consider partial complex
   seizures (temporal lobe locus of CNS abnormalities).  Would check
   continuous EEG, consider repeat Neurological consulation to
   specifically address question of paritial complex seizures.  Continue
   Keppra.
   FLUIDS -- Hypovolemia.  Plan net expand intravascular volume.  Monitor
   I/O.
   NUTRIONAL SUPPORT -- Has been NPO.  Plan OGT/NGT and initiate  TF.
   Plan to evaluate for PEG (likely surgical rather than percutaneous).
   GVHD
 continue current level of care.
   CML -- s/p transplant, complicated by chronic GVHD and bronchiolitis
   obliterans.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2155-03-01 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - nasally re-intubated for resp distress/hypercarbic resp failure this
   morning
   - repeat ABG showed improved ventilation
   - continued empiric treatment for aspiration/HAP
   - Dr. [**Last Name (STitle) 2045**] and Dr. [**Last Name (STitle) 619**] discussed pulmonary prognosis with wife
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-2-27**] 07:55 PM
   Metronidazole - [**2155-2-28**] 11:32 AM
   Cefipime - [**2155-2-28**] 12:30 PM
   Bactrim (SMX/TMP) - [**2155-2-28**] 05:00 PM
   Vancomycin - [**2155-2-28**] 08:00 PM
   Acyclovir - [**2155-2-28**] 08:00 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-2-28**] 07:44 AM
   Metoprolol - [**2155-2-28**] 07:45 AM
   Morphine Sulfate - [**2155-2-28**] 08:06 AM
   Diltiazem - [**2155-2-28**] 08:40 AM
   Fentanyl - [**2155-3-1**] 06:31 AM
   Midazolam (Versed) - [**2155-3-1**] 06:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-1**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 95 (83 - 144) bpm
   BP: 108/65(76) {58/43(61) - 120/76(86)} mmHg
   RR: 17 (17 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  3,862 mL
                                                                    305 mL
   PO:
             TF:
                                                                     60 mL
                                                                    159 mL
   IVF:
                                                                  3,802 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    345 mL
   Urine:
                                                                    635 mL
                                                                    290 mL
   NG:
                                                                     10 mL
                                                                     55 mL
   Stool:
   Drains:
   Balance:
                                                                  3,217 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.53/37/142/30/8
   Ve: 9.4 L/min
   PaO2 / FiO2: 284
   Physical Examination
   General Appearance: Nasaly intubated, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Rhonchi at
   Right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   224 K/uL
   7.6 g/dL
   85 mg/dL
   1.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   31 mg/dL
   101 mEq/L
   138 mEq/L
   24.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2155-2-22**]  03:12 AM
                             [**2155-2-25**]  09:59 AM
                             [**2155-2-25**]  11:40 AM
                             [**2155-2-26**]  05:24 AM
                             [**2155-2-26**]  03:16 PM
                             [**2155-2-27**]  03:17 AM
                             [**2155-2-28**]  06:17 AM
                             [**2155-2-28**]  08:26 AM
                             [**2155-2-28**]  10:09 PM
                             [**2155-3-1**]  04:25 AM
   WBC
   8.0
   9.1
   8.3
   10.6
   12.0
   9.3
   Hct
   27.9
   28.3
   26.0
   26.2
   29.8
   24.0
   Plt
   243
   242
   254
   [**Telephone/Fax (3) 11453**]
   Cr
   1.1
   0.6
   1.0
   1.2
   1.3
   1.2
   1.5
   1.4
   TropT
   0.02
   0.03
   0.05
   TCO2
   41
   32
   Glucose
   86
   42
   54
   80
   117
   86
   80
   85
   Other labs: PT / PTT / INR:13.6/25.0/1.2, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:1.0 mmol/L,
   LDH:186 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed (by accident) which
   revealed a pH of 7.14 and a PCO2 - >110.  The decision was made to
   intubate and anesthesia came and performed a right nare intubation.
   The differential includes worsening aspiration pneumonia, flash
   pulmonary edema given persistent tachycardia, and PE.   Pt noted to
   have a persistnet/increasing RLL infiltrate on CXR, and newly elevated
   white count, making pneumonia the most likely explanation.    PE is
   lower on our differential given the absence of tachypnea and more
   likely explanation.  Would be reluctant to perform CTA as creatinine is
   rising, he is a terrible candidate for v/q scan, will check LENI
   CXR is not c/w flash.
   .
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs)
   - LENI
s (-)
   - Nasally intubated
   - Dr. [**Last Name (STitle) 1750**] to readress trach, as it may be necessary in the future
   sounds like plan is to t him up as much as possible get him off the
   vent, and make him DNR/DNI
   .
   .
   Nutrition/refeeding:
   An OG tube is in place and is a temporary fix.  Pt currently not
   tolerating PO intake, has been noted to have increased coughing with
   medications/liquids. Video swallow shows diffuse weakness.Surgical
   evaluation for PEG today, which will require another discussion with
   Dr. [**Last Name (STitle) 1750**] after.  Tube feeds for now with [**Hospital1 **] lytes for refeeding
   syndrome. Liberal phosphate and thiamine.
   - surgery to eval for G-Tube
   .
    Hypotension:  Resolved
   - Bolus PRN
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently well rate controlled with no meds, now that we have an OG,
   would start with low dose oral dilt.
   - doing well on oral dilt
   .
   .
 ALKALOSIS, METABOLIC
   Likely contraction alkalosis/compensatory metabolic alkalosis given his
   recent history of poor PO intake and marked CO2 retention. His
   Creatinine is 1.5, which is elevated. Pt currently receiving NS IVF
   given his low BP. Will continue to monitor I/Os, and now starting
   tubefeeds.  G-tube must be discussed.
   - follow electrolytes
   .
   >  ACUTE RENAL INSUFFICIENCY
   Likely pre-renal, will f/u urine lytes.
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans. Pt was on
   prednisone taper as an outpatient, will continue on IV
   methylprednisolone equivalent dose as he is strictly NPO.
   - cont methylpred, for the moment with plans for taper
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 ANEMIA, OTHER
   Pt has chronic anemia with prior Hcts noted to be 25-26. On admission
   is Hct was 33, however may be hemoconcentrated as he was clinically dry
   on exam. Repeat Hct from floor draw was 19, no reports of hematochezia,
   melena. Will review Metavision records to determine if pt had a femoral
   line which would place him at risk for RP bld. However given the time
   interval would be atypical.  B12 level normal. HCT of 29 today likely
   represents volume contraction.
   - follow Hct
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:   argatroban
   Stress ulcer:   pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 44**] pending transition from dilt gtt to lopressor IV

2155-03-01 08:16:00 Physician Attending Progress Note
Chief Complaint: AFLUTTER W/RVR, ACUTE ON CHRONIC RESPIRATORY FAILURE
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See H&P for full details.  In brief s/p BMT for CML c/b GVH,
   obliterative bronchiolitis here w/rapid aflutter, aspiration, and
   respiratory failure.
   24 Hour Events:
 Acute on chronic hypercarbic respiratory failure, required intubation
 Begun on antibiotics for possible aspiration PNA
 Begun on Tube feeds via OG tube
 On-going goals of care discussion with family and BMT team
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-2-27**] 07:55 PM
   Metronidazole - [**2155-2-28**] 11:32 AM
   Cefipime - [**2155-2-28**] 12:30 PM
   Bactrim (SMX/TMP) - [**2155-2-28**] 05:00 PM
   Vancomycin - [**2155-2-28**] 08:00 PM
   Acyclovir - [**2155-2-28**] 08:00 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Diltiazem - [**2155-2-28**] 08:40 AM
   Fentanyl - [**2155-3-1**] 07:57 AM
   Midazolam (Versed) - [**2155-3-1**] 07:57 AM
   Other medications:
   Keppra, Pantoprazole, Folate
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-1**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 95 (83 - 138) bpm
   BP: 108/65(76) {58/43(61) - 120/76(86)} mmHg
   RR: 17 (17 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  3,862 mL
                                                                    347 mL
   PO:
             TF:
                                                                     60 mL
                                                                    184 mL
   IVF:
                                                                  3,802 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    345 mL
   Urine:
                                                                    635 mL
                                                                    290 mL
   NG:
                                                                     10 mL
                                                                     55 mL
   Stool:
   Drains:
   Balance:
                                                                  3,217 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 98%
   ABG: 7.53/37/142/30/8
   Ve: 6.8 L/min
   PaO2 / FiO2: 284
   Physical Examination
   General Appearance: Thin, Anxious, Trismus
   Eyes / Conjunctiva: PERRL, R eye taped shut
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, Trismus
   Cardiovascular: (S1: Normal), (S2: Normal, Loud P2)
   Peripheral Vascular: 1+ radial and DP pulses bilat
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   Diminished at bases )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: verbal stimuli
   Labs / Radiology
   7.6 g/dL
   224 K/uL
   85 mg/dL
   1.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   31 mg/dL
   101 mEq/L
   138 mEq/L
   24.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2155-2-22**]  03:12 AM
                             [**2155-2-25**]  09:59 AM
                             [**2155-2-25**]  11:40 AM
                             [**2155-2-26**]  05:24 AM
                             [**2155-2-26**]  03:16 PM
                             [**2155-2-27**]  03:17 AM
                             [**2155-2-28**]  06:17 AM
                             [**2155-2-28**]  08:26 AM
                             [**2155-2-28**]  10:09 PM
                             [**2155-3-1**]  04:25 AM
   WBC
   8.0
   9.1
   8.3
   10.6
   12.0
   9.3
   Hct
   27.9
   28.3
   26.0
   26.2
   29.8
   24.0
   Plt
   243
   242
   254
   [**Telephone/Fax (3) 11453**]
   Cr
   1.1
   0.6
   1.0
   1.2
   1.3
   1.2
   1.5
   1.4
   TropT
   0.02
   0.03
   0.05
   TCO2
   41
   32
   Glucose
   86
   42
   54
   80
   117
   86
   80
   85
   Other labs: PT / PTT / INR:13.6/25.0/1.2, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:1.0 mmol/L,
   LDH:186 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   CXR
 ETT in place (a bit high but in as far as possible), stable to
   improved R basilar infiltrate, bilateral pleural effusions, stable
   retrocardiac opacity.
   Assessment and Plan
 ACUTE ON CHRONIC HYPERCARBIC RESPIRATORY FAILURE
 Baseline has
   severe bronchiolitis obliterans.  Intubated, markedly improved.  Will
   aim to adjust MV to achieve goal PCO2 of ~60-70 w/stable pH.  Acute
   decompensation likely due to continued aspiration and decreased
   clearance of secretions, but will continue antibiotics for 8 day
   course.
   - Antibiotics for HAP for 8days
   - Chest PT, suctioning as needed
   - Adjust minute ventilation for goal PCO2 of 60-70
   - In discussion with family and BMT, plan will likely be to optimize
   respiratory status and aim to extubate and not reintubate
 ATRIAL FLUTTER with RVR
 Improved rate on dilt gtt, now has oral
   access so transitioned to oral diltiazem.  Had discussed ablation or
   cardioversion but will hold off for now.
   - Oral dilt for rate control
   - No anticoagulation for now
 ALTERED MENTAL STATUS
 Exact etiology unclear, possibly due to
   radiation gliosis and seizures.  On empiric Keppra, sedation as needed
   for comfort.
   - PRN fent, morphine for pain
   - PRN versed for agitation
   - Keppra for possible seizures
 Decreased NUTRITION
 Has had poor nutrition for >1 month.  Now w/OG
   tube and started on tube feeds.  Family prefers no PEG, but had marked
   aspiration on video swallow.
   - Tube feeds, monitor for refeeding syndrome
   - Now with oral access, so will change what we can to oral route
 HYPOTENSION
 Occurred in the setting of intubation, aflutter w/RVR,
   and restarting dilt gtt.  Improved w/IVF, no resolved.
   - Monitor BP, will try for A line
 .H/O CML and Sarcoma
 S/p BMT for CML in [**2147**], sarcoma s/p resection
   and XRT.  C/b GVH and not tolerating anti-rejection meds.
   - On low-dose solumedrol
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-2-28**] 06:00 PM 30 mL/hour
   Glycemic Control:  Follow BS on Chem-7
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: PPI
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  With wife and BMT team daily
   Code status: Full code
   Disposition : MICU
   Total time spent: 35 Minutes
   Patient is critically ill

2155-03-02 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - Having trouble getting him to retain CO2 at his
   normal level, reduced tidal volume to 350 and rate to 12 but breathing
   over both
   24 Hour Events:
 ARTERIAL LINE - START [**2155-3-1**] 02:30 PM
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2155-3-1**] 09:30 AM
   Metronidazole - [**2155-3-1**] 12:00 PM
   Cefipime - [**2155-3-1**] 01:00 PM
   Bactrim (SMX/TMP) - [**2155-3-1**] 01:00 PM
   Azithromycin - [**2155-3-1**] 06:07 PM
   Vancomycin - [**2155-3-1**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2155-3-1**] 07:57 AM
   Fentanyl - [**2155-3-1**] 09:30 AM
   Furosemide (Lasix) - [**2155-3-1**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-2**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 89 (88 - 108) bpm
   BP: 98/57(70) {93/50(65) - 127/75(92)} mmHg
   RR: 23 (0 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,631 mL
                                                                    546 mL
   PO:
             TF:
                                                                    875 mL
                                                                    333 mL
   IVF:
                                                                  1,436 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                    670 mL
   Urine:
                                                                  1,115 mL
                                                                    650 mL
   NG:
                                                                    140 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  1,376 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/52/131/32/9
   Ve: 6.3 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: Nasaly intubated, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Rhonchi at
   Right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   221 K/uL
   7.5 g/dL
   138 mg/dL
   1.4 mg/dL
   32 mEq/L
   4.2 mEq/L
   29 mg/dL
   102 mEq/L
   137 mEq/L
   23.7 %
   8.4 K/uL
        [image002.jpg]
                             [**2155-2-28**]  06:17 AM
                             [**2155-2-28**]  08:26 AM
                             [**2155-2-28**]  10:09 PM
                             [**2155-3-1**]  04:25 AM
                             [**2155-3-1**]  03:15 PM
                             [**2155-3-1**]  03:53 PM
                             [**2155-3-1**]  06:05 PM
                             [**2155-3-1**]  07:44 PM
                             [**2155-3-1**]  08:01 PM
                             [**2155-3-2**]  04:16 AM
   WBC
   12.0
   9.3
   9.6
   8.4
   Hct
   29.8
   24.0
   22.7
   23.7
   23.7
   Plt
   298
   224
   210
   221
   Cr
   1.5
   1.4
   1.5
   1.4
   TCO2
   41
   32
   32
   34
   36
   Glucose
   80
   85
   129
   138
   Other labs: PT / PTT / INR:13.6/25.0/1.2, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.7 mmol/L,
   LDH:140 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
[**2155-3-1**] 5:05 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2155-3-1**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   Assessment and Plan
   Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed (by accident) which
   revealed a pH of 7.14 and a PCO2 - >110.  The decision was made to
   intubate and anesthesia came and performed a right nare intubation.
   The differential includes worsening aspiration pneumonia, flash
   pulmonary edema given persistent tachycardia, and PE.   Pt noted to
   have a persistnet/increasing RLL infiltrate on CXR, and newly elevated
   white count, making pneumonia the most likely explanation.    PE is
   lower on our differential given the absence of tachypnea and more
   likely explanation.  LENI
s neg and poor candidate for CTA given [**Last Name (un) **].
   CXR was not c/w flash.
   .
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs) D3/10-14
   - LENI
s (-)
   - Nasally intubated
   - Dr. [**Last Name (STitle) 1750**] to readress trach, as it may be necessary in the future
   sounds like plan is to t him up as much as possible get him off the
   vent, and make him DNR/DNI
   .
   .
   Nutrition/refeeding:
   An OG tube is in place and is a temporary fix.  Pt currently not
   tolerating PO intake, has been noted to have increased coughing with
   medications/liquids. Video swallow shows diffuse weakness.Surgical
   evaluation for PEG today, which will require another discussion with
   Dr. [**Last Name (STitle) 1750**] after.  Tube feeds for now with [**Hospital1 **] lytes for refeeding
   syndrome. Liberal phosphate and thiamine.
   - surgery to eval for G-Tube
   .
    Hypotension:  Resolved
   - Bolus PRN
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently well rate controlled with no meds, now that we have an OG,
   would start with low dose oral dilt.
   - doing well on oral dilt
   .
   .
 ALKALOSIS, METABOLIC
   Likely contraction on top of compensatory metabolic alkalosis given his
   recent history of marked CO2 retention. His Creatinine is 1.5, urine
   lytes c/w pre-renal. TBB kept even yesterday.
   - follow electrolytes
   - follow ABGs
   .
   >  ACUTE RENAL INSUFFICIENCY
   Likely pre-renal, Feurea 22.
   - renally dose meds
   - TBB goal even
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 ANEMIA, OTHER
   Hct stable x 24 hours, may have been hemoconcentrated upon transfer to
   ICU.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:   pneumoboots
   Stress ulcer:   pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 44**] pending transition from dilt gtt to lopressor IV

2155-03-02 08:11:00 Physician Attending Progress Note
Chief Complaint: AFLUTTER, RESPIRATORY FAILURE
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See H&P for full details.
   24 Hour Events:
 ARTERIAL LINE PLACED
 Reduced minute ventilation to avoid hyperventilating him
 Stable on vent
 Started on lasix
   Allergies:
   Ambisome
   Campath
   Heparin Agents
   Last dose of Antibiotics:
   Acyclovir - [**2155-3-1**] 09:30 AM
   Metronidazole - [**2155-3-1**] 12:00 PM
   Cefipime - [**2155-3-1**] 01:00 PM
   Bactrim (SMX/TMP) - [**2155-3-1**] 01:00 PM
   Azithromycin - [**2155-3-1**] 06:07 PM
   Vancomycin - [**2155-3-1**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2155-3-1**] 09:30 AM
   Furosemide (Lasix) - [**2155-3-1**] 09:00 PM
   Other medications:
   Prednisone 5mg, Keppra, Chlorhexidine, Diltiazem PO, Nystatin,
   Thiamine, Folate, Pantoprazole
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-2**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 89 (88 - 108) bpm
   BP: 98/57(70) {93/50(65) - 127/75(92)} mmHg
   RR: 23 (0 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,631 mL
                                                                    588 mL
   PO:
             TF:
                                                                    875 mL
                                                                    366 mL
   IVF:
                                                                  1,436 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                    670 mL
   Urine:
                                                                  1,115 mL
                                                                    650 mL
   NG:
                                                                    140 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  1,376 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/52/131/32/9
   Ve: 6.3 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Nasal Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: 2+ radial and DP biilat
   Respiratory / Chest: (Breath Sounds: Bronchial: throughout, Diminished:
   at R base)
   Abdominal: Firm, Non-tender, Soft bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: verbal stimuli
   Labs / Radiology
   7.5 g/dL
   221 K/uL
   138 mg/dL
   1.4 mg/dL
   32 mEq/L
   4.2 mEq/L
   29 mg/dL
   102 mEq/L
   137 mEq/L
   23.7 %
   8.4 K/uL
        [image002.jpg]
                             [**2155-2-28**]  06:17 AM
                             [**2155-2-28**]  08:26 AM
                             [**2155-2-28**]  10:09 PM
                             [**2155-3-1**]  04:25 AM
                             [**2155-3-1**]  03:15 PM
                             [**2155-3-1**]  03:53 PM
                             [**2155-3-1**]  06:05 PM
                             [**2155-3-1**]  07:44 PM
                             [**2155-3-1**]  08:01 PM
                             [**2155-3-2**]  04:16 AM
   WBC
   12.0
   9.3
   9.6
   8.4
   Hct
   29.8
   24.0
   22.7
   23.7
   23.7
   Plt
   298
   224
   210
   221
   Cr
   1.5
   1.4
   1.5
   1.4
   TCO2
   41
   32
   32
   34
   36
   Glucose
   80
   85
   129
   138
   Other labs: PT / PTT / INR:13.6/25.0/1.2, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.7 mmol/L,
   LDH:140 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   CXR
 ETT high but in as far as possible, bilateral effusions w/fluid
   in the fissures, bibasilar opacities, R somewhat improved
   Sputum Cx
 GPCs and yeast from [**3-1**]
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE ON CHRONIC
 Has chronic bronchiolitis
   obliterans, clear aspiration on video swallow, markedly hypercarbic
   requiring intubation.  Improved rapidly on vent, started on broad
   spectrum antibiotics.  Has been mildly positive so will try to optimize
   volume status
   - 8 day course of antibiotics for aspiration/HAP
   - Trial on PSV today, follow gas.  Goal PCO2 ~60
   - Try gentle diuresis, goal [**Telephone/Fax (1) 1335**] cc negative today
 ATRIAL FLUTTER w/RVR
 Over to oral dilt, doing well on current
   dose.  No anticoagulation at this point, and not opting for ablation.
   - Dilt, titrate as needed
 Abdominal distension
 More marked today, minimal but small amounts
   of stool.
   - Check KUB
   - Consider enema, increasing bowel regimen if KUB w/no obstruction
  MALNUORISHED
 Finally started on tube feeds three days ago, monitor
   lytes for refeeding, converted medications to PO if possible
 HYPOTENSION
 Briefly hypotensive in setting of aflutter,
   hypercarbia, intubation, recovered w/IVF.
   - Follow BP, goal MAP >65
 H/O CML, SARCOMA
 s/p BMT, has GVH and obliterative bronchiolitis,
   on low dose prednisone.  Appreciate BMT input.
 Heparin Allergy
 Avoiding heparin products.
 ALTERED MENTAL STATUS
 Mental status currently fine, doing well on
   minimal sedation.  Had been altered w/concern for radiation gliosis and
   seizure (although no definitive seizure activity on EEG).
   - Continue current sedation
   - Continue Keppra
   - Appreciate neuro input
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-2**] 12:33 AM 45 mL/hour
   Glycemic Control:  Follow finger sticks
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   20 Gauge - [**2155-3-1**] 10:00 AM
   Arterial Line - [**2155-3-1**] 02:30 PM
   Prophylaxis:
   DVT: P-boots
   Stress ulcer: PPI
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  With patient, wife, and BMT team
   Code status: Full code
   Disposition : MICU for know
   Total time spent: 30 minutes

2155-03-03 07:18:00 Physician Resident Progress Note
Chief Complaint: hypercapneic resp failure, a. flutter with RVR
   24 Hour Events:
   - gave Lasix 40, 60
   - KUB for firm abdomen, no e/o obstruction, gave lactulose
   - PSV trial, did well on [**1-11**]
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAmphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2155-3-1**] 09:30 AM
   Metronidazole - [**2155-3-1**] 12:00 PM
   Bactrim (SMX/TMP) - [**2155-3-1**] 01:00 PM
   Azithromycin - [**2155-3-1**] 06:07 PM
   Cefipime - [**2155-3-2**] 12:00 PM
   Vancomycin - [**2155-3-2**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2155-3-2**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   denies pain this morning, denies dyspnea, (-) n/v/d/f/c
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2155-3-3**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.2
   HR: 90 (87 - 97) bpm
   BP: 120/68(85) {94/51(66) - 120/69(85)} mmHg
   RR: 12 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,075 mL
                                                                    482 mL
   PO:
             TF:
                                                                  1,085 mL
                                                                    323 mL
   IVF:
                                                                    600 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                  1,540 mL
   Urine:
                                                                  2,200 mL
                                                                  1,520 mL
   NG:
                                                                     60 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                   -185 mL
                                                                 -1,058 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 373 (307 - 374) mL
   PS : 12 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 185
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.40/59/139/36/9
   Ve: 5.9 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), fixed
   split S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, chronic GVHD
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   198 K/uL
   7.4 g/dL
   106 mg/dL
   1.4 mg/dL
   36 mEq/L
   3.8 mEq/L
   30 mg/dL
   99 mEq/L
   139 mEq/L
   23.5 %
   7.9 K/uL
        [image002.jpg]
                             [**2155-2-28**]  10:09 PM
                             [**2155-3-1**]  04:25 AM
                             [**2155-3-1**]  03:15 PM
                             [**2155-3-1**]  03:53 PM
                             [**2155-3-1**]  06:05 PM
                             [**2155-3-1**]  07:44 PM
                             [**2155-3-1**]  08:01 PM
                             [**2155-3-2**]  04:16 AM
                             [**2155-3-2**]  03:36 PM
                             [**2155-3-3**]  04:20 AM
   WBC
   9.3
   9.6
   8.4
   7.9
   Hct
   24.0
   22.7
   23.7
   23.7
   23.5
   Plt
   [**Telephone/Fax (3) 11459**]98
   Cr
   1.4
   1.5
   1.4
   1.4
   TCO2
   32
   32
   34
   36
   38
   Glucose
   85
   129
   138
   106
   Other labs: PT / PTT / INR:13.6/25.0/1.2, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Microbiology: urine cx (-)
   sputum (-)
   Problem [**Name (NI) **]
   > HYPERCAPNEIC RESPIRATORY FAILURE
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 HYPOTENSION (NOT SHOCK)
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   Assessment and Plan
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed which revealed a pH of
   7.14 and a PCO2 - >110.  The decision was made to intubate and
   anesthesia came and performed a right nare intubation.   The
   differential included worsening aspiration pneumonia, flash pulmonary
   edema given persistent tachycardia, and PE.   Pt noted to have a
   persistnet/increasing RLL infiltrate on CXR, and newly elevated white
   count, making aspiration pneumonia the most likely explanation.    PE
   is lower on our differential given the absence of tachypnea and more
   likely explanation.  LENI
s neg and poor candidate for CTA given [**Last Name (un) **].
   CXR was not c/w flash.
   .
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs) D4/10-14
   - LENI
s (-)
   - Nasally intubated
   - Dr. [**Last Name (STitle) 1750**] to readress trach, as it may be necessary in the future
   the plan may be to support him up as much as possible to get him off
   the vent, and make him DNR/DNI with no trach or PEG, will work to
   clarify with patient, family, and Dr. [**Last Name (STitle) 1750**]
   - obtain sputum cx today
   .
   >  Nutrition/refeeding:
   An OG tube is in place and is a temporary fix.  Pt currently not
   tolerating PO intake, has been noted to have increased coughing with
   medications/liquids. Video swallow shows diffuse weakness. Wife does
   not want PEG at this point.  Will cont TFs
    - [**Hospital1 **] lytes for refeeding syndrome
   - cont phosphate and thiamine
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently well rate controlled with PO dilt
   Will need to consider anti-coagulation following treatment for
   aspiration pneumonia
   .
 ALKALOSIS, METABOLIC
   Likely compensatory metabolic alkalosis given his recent history of
   marked CO2 retention. His Creatinine is 1.5, urine lytes c/w pre-renal.
   TBB slightly (-) yesterday, could have component of volume
   contraction
   - follow electrolytes -> replete with KCl
   - follow ABGs
   .
   >  ACUTE RENAL INSUFFICIENCY
   Likely pre-renal, Feurea 22. Difficult to interpret since patient seems
   volume overloaded with dependent edema and bilateral pleural effusions
   with fluid in major fissure. TBB goal 1-2 L negative today with prn
   20-40 IV Lasix or gtt as needed.
   - renally dose meds
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 ANEMIA, OTHER
   Hct stable, may have been hemoconcentrated upon transfer to ICU.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-2**] 09:46 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   20 Gauge - [**2155-3-1**] 10:00 AM
   Arterial Line - [**2155-3-1**] 02:30 PM
   Prophylaxis:
   DVT:   SCDs
   Stress ulcer:  pantoprazole
   VAP:    cefepime, flagyl, vanc
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 44**]

2155-03-03 12:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated (nasal), mechanically ventilated.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2155-3-1**] 09:30 AM
   Metronidazole - [**2155-3-1**] 12:00 PM
   Bactrim (SMX/TMP) - [**2155-3-1**] 01:00 PM
   Azithromycin - [**2155-3-1**] 06:07 PM
   Cefipime - [**2155-3-2**] 12:00 PM
   Vancomycin - [**2155-3-3**] 08:15 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2155-3-2**] 11:00 PM
   Pantoprazole (Protonix) - [**2155-3-3**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical venitlation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-3-3**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 88 (87 - 97) bpm
   BP: 108/61(76) {94/51(66) - 120/69(85)} mmHg
   RR: 14 (0 - 20) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,076 mL
                                                                  1,195 mL
   PO:
             TF:
                                                                  1,086 mL
                                                                    529 mL
   IVF:
                                                                    600 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                  2,040 mL
   Urine:
                                                                  2,200 mL
                                                                  2,020 mL
   NG:
                                                                     60 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                   -184 mL
                                                                   -845 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 423 (307 - 423) mL
   PS : 12 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 185
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: 7.40/59/139/36/9
   Ve: 5.2 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   No(t) Endotracheal tube, No(t) NG tube, No(t) OG tube, Surgical scars
   right face
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Firm to touch throughout;
   vitiligo
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   198 K/uL
   106 mg/dL
   1.4 mg/dL
   36 mEq/L
   3.8 mEq/L
   30 mg/dL
   99 mEq/L
   139 mEq/L
   23.5 %
   7.9 K/uL
        [image002.jpg]
                             [**2155-2-28**]  10:09 PM
                             [**2155-3-1**]  04:25 AM
                             [**2155-3-1**]  03:15 PM
                             [**2155-3-1**]  03:53 PM
                             [**2155-3-1**]  06:05 PM
                             [**2155-3-1**]  07:44 PM
                             [**2155-3-1**]  08:01 PM
                             [**2155-3-2**]  04:16 AM
                             [**2155-3-2**]  03:36 PM
                             [**2155-3-3**]  04:20 AM
   WBC
   9.3
   9.6
   8.4
   7.9
   Hct
   24.0
   22.7
   23.7
   23.7
   23.5
   Plt
   [**Telephone/Fax (3) 11459**]98
   Cr
   1.4
   1.5
   1.4
   1.4
   TCO2
   32
   32
   34
   36
   38
   Glucose
   85
   129
   138
   106
   Other labs: PT / PTT / INR:13.6/25.0/1.2, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:18/40, Alk Phos / T Bili:202/0.4,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- predominately ventilatory failure, suspect
   multifactorial, attributed to evolving RLL pneumonia (aspiration),
   perhaps component of narcotic use (pain management), on background of
   extensive advanced lung disease.  Plan continue mechanical ventilation,
   monitor respiratory tract secretions, monitor ABG.  Hopefully will be
   able to demonstrate clinical response to pneumonia, and hope to work
   towards extubation.   No plans to proceed with trach if unable to
   extubate.
   HYPOTENSION -- Resolved.  Monitor BP and MAP, maintain MAP >60 mmHg.
   TACHYCARDIA -- A-flutter, controlled on Diltiazem, then lopressor.
   Currently off diltiazem and lopressor while hypotensive.  Hope to
   resume chemical control.  No plans for ablation procedure.
   PULMONARY INFILTRATES -- new progressive RLL infiltrate, suspect
   aspiration event --> now likely aspiration pneumonia.  Plan broad
   antimicrobials to cover for HCAP.
   SEIZURES -- no clinical evidence for motor seizure.  With transient and
   reversible mental status changes, need to consider partial complex
   seizures (temporal lobe locus of CNS abnormalities).  Would check
   continuous EEG, consider repeat Neurological consulation to
   specifically address question of paritial complex seizures.  Continue
   Keppra.
   FLUIDS -- Hypovolemia.  Plan net expand intravascular volume.  Monitor
   I/O.
   NUTRIONAL SUPPORT -- Tolerating TF at goal.  No plan for PEG.
   GVHD
 continue current level of care.
   CML -- s/p transplant, complicated by chronic GVHD and bronchiolitis
   obliterans.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-3**] 08:22 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   20 Gauge - [**2155-3-1**] 10:00 AM
   Arterial Line - [**2155-3-1**] 02:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2155-03-04 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - continued with diuresis
   - cont aspiration PNA Rx
   - tolerated PSV 12/5 during day
   - TFs at goal
   24 Hour Events:
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2155-3-1**] 09:30 AM
   Metronidazole - [**2155-3-1**] 12:00 PM
   Bactrim (SMX/TMP) - [**2155-3-1**] 01:00 PM
   Cefipime - [**2155-3-3**] 12:00 PM
   Azithromycin - [**2155-3-3**] 07:30 PM
   Vancomycin - [**2155-3-3**] 08:15 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-3-3**] 08:28 AM
   Furosemide (Lasix) - [**2155-3-3**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-4**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 93 (86 - 93) bpm
   BP: 98/48(64) {92/48(63) - 117/67(84)} mmHg
   RR: 9 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,821 mL
                                                                    337 mL
   PO:
             TF:
                                                                  1,091 mL
                                                                    248 mL
   IVF:
                                                                  1,060 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  4,090 mL
                                                                    800 mL
   Urine:
                                                                  4,070 mL
                                                                    800 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,269 mL
                                                                   -463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (340 - 423) mL
   PS : 12 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 148
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), fixed
   split S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, chronic GVHD
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   184 K/uL
   7.5 g/dL
   92 mg/dL
   1.4 mg/dL
   37 mEq/L
   3.7 mEq/L
   29 mg/dL
   97 mEq/L
   138 mEq/L
   23.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2155-3-1**]  03:15 PM
                             [**2155-3-1**]  03:53 PM
                             [**2155-3-1**]  06:05 PM
                             [**2155-3-1**]  07:44 PM
                             [**2155-3-1**]  08:01 PM
                             [**2155-3-2**]  04:16 AM
                             [**2155-3-2**]  03:36 PM
                             [**2155-3-3**]  04:20 AM
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
   WBC
   9.6
   8.4
   7.9
   10.5
   Hct
   22.7
   23.7
   23.7
   23.5
   23.2
   Plt
   [**Telephone/Fax (3) 11468**]84
   Cr
   1.5
   1.4
   1.4
   1.3
   1.4
   TCO2
   32
   34
   36
   38
   Glucose
   129
   138
   106
   161
   92
   Other labs: PT / PTT / INR:12.7/26.4/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed which revealed a pH of
   7.14 and a PCO2 - >110.  The decision was made to intubate and
   anesthesia came and performed a right nare intubation.   The
   differential included worsening aspiration pneumonia, flash pulmonary
   edema given persistent tachycardia, and PE.   Pt noted to have a
   persistnet/increasing RLL infiltrate on CXR, and newly elevated white
   count, making aspiration pneumonia the most likely explanation.    PE
   is lower on our differential given the absence of tachypnea and more
   likely explanation.  LENI
s neg and poor candidate for CTA given [**Last Name (un) **].
   CXR was not c/w flash.
   .
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs) D5/10-14
   - Nasally intubated
   - Dr. [**Last Name (STitle) 1750**] to readress trach, as it may be necessary in the future
   the plan may be to support him up as much as possible to get him off
   the vent, and make him DNR/DNI with no trach or PEG, will work to
   clarify with patient, family, and Dr. [**Last Name (STitle) 1750**]
   .
   >  Nutrition/refeeding:
   An OG tube is in place and is a temporary fix.  Pt currently not
   tolerating PO intake, has been noted to have increased coughing with
   medications/liquids. Video swallow shows diffuse weakness. Wife does
   not want PEG at this point.  Will cont TFs
   - cont phosphate and thiamine
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently well rate controlled with PO dilt
   Will need to consider anti-coagulation following treatment for
   aspiration pneumonia
   .
 ALKALOSIS, METABOLIC
   Likely compensatory metabolic alkalosis given his recent history of
   marked CO2 retention. His Creatinine is 1.5, urine lytes c/w pre-renal.
   TBB slightly (-) yesterday, could have component of volume
   contraction
   - follow electrolytes -> replete with KCl
   - follow ABGs
   .
   >  ACUTE RENAL INSUFFICIENCY
   Likely pre-renal, Feurea 22. Difficult to interpret since patient seems
   volume overloaded with dependent edema and bilateral pleural effusions
   with fluid in major fissure. TBB goal 1-2 L negative today with prn
   20-40 IV Lasix or gtt as needed.
   - renally dose meds
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 ANEMIA, OTHER
   Hct stable, may have been hemoconcentrated upon transfer to ICU.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Arterial Line - [**2155-3-1**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-03-04 12:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated (nasal), mechanically ventilated.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2155-3-1**] 12:00 PM
   Bactrim (SMX/TMP) - [**2155-3-1**] 01:00 PM
   Cefipime - [**2155-3-3**] 12:00 PM
   Azithromycin - [**2155-3-3**] 07:30 PM
   Vancomycin - [**2155-3-4**] 08:44 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2155-3-3**] 09:00 PM
   Pantoprazole (Protonix) - [**2155-3-4**] 08:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-3-4**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 127 (86 - 130) bpm
   BP: 103/57(71) {70/33(45) - 116/67(83)} mmHg
   RR: 20 (0 - 22) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,835 mL
                                                                    908 mL
   PO:
             TF:
                                                                  1,104 mL
                                                                    549 mL
   IVF:
                                                                  1,061 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                  4,090 mL
                                                                  1,060 mL
   Urine:
                                                                  4,070 mL
                                                                  1,060 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,255 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (340 - 421) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 148
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: ///37/
   Ve: 5.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Vitiligo; Firm skin
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   184 K/uL
   92 mg/dL
   1.4 mg/dL
   37 mEq/L
   3.7 mEq/L
   29 mg/dL
   97 mEq/L
   138 mEq/L
   23.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2155-3-1**]  03:15 PM
                             [**2155-3-1**]  03:53 PM
                             [**2155-3-1**]  06:05 PM
                             [**2155-3-1**]  07:44 PM
                             [**2155-3-1**]  08:01 PM
                             [**2155-3-2**]  04:16 AM
                             [**2155-3-2**]  03:36 PM
                             [**2155-3-3**]  04:20 AM
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
   WBC
   9.6
   8.4
   7.9
   10.5
   Hct
   22.7
   23.7
   23.7
   23.5
   23.2
   Plt
   [**Telephone/Fax (3) 11468**]84
   Cr
   1.5
   1.4
   1.4
   1.3
   1.4
   TCO2
   32
   34
   36
   38
   Glucose
   129
   138
   106
   161
   92
   Other labs: PT / PTT / INR:12.7/26.4/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- predominately ventilatory failure, suspect
   multifactorial, attributed to evolving RLL pneumonia (aspiration),
   perhaps component of narcotic use (pain management), on background of
   extensive advanced lung disease.  Plan continue mechanical ventilation,
   monitor respiratory tract secretions, monitor ABG.  Hopefully will be
   able to demonstrate clinical response to pneumonia, and hope to work
   towards extubation.   No plans to proceed with trach if unable to
   extubate.
   HYPOTENSION -- Resolved.  Monitor BP and MAP, maintain MAP >60 mmHg.
   TACHYCARDIA -- A-flutter, controlled on Diltiazem.  Continue chemical
   control.  No plans for ablation procedure.
   PULMONARY INFILTRATES -- RLL infiltrate, treated as aspiration
   pneumonia.  Plan broad antimicrobials to cover for HCAP.
   SEIZURES -- no clinical evidence for motor seizure.  With transient and
   reversible mental status changes, need to consider partial complex
   seizures (temporal lobe locus of CNS abnormalities).  Would check
   continuous EEG, consider repeat Neurological consulation to
   specifically address question of paritial complex seizures.  Continue
   Keppra.
   FLUIDS -- Hypovolemia.  Plan net expand intravascular volume.  Monitor
   I/O.
   NUTRIONAL SUPPORT -- Tolerating TF at goal.  No plan for PEG.
   GVHD
 continue current level of care.
   CML -- s/p transplant, complicated by chronic GVHD and bronchiolitis
   obliterans.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-4**] 04:55 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Arterial Line - [**2155-3-1**] 02:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-03-05 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   c/o diffuse discomfort, pain in buttocks
   no chest pain, no ab pain
   does not feel breathing any better today and wants tube out
   24 Hour Events:
   started lasix gtt
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-3-3**] 12:00 PM
   Azithromycin - [**2155-3-3**] 07:30 PM
   Metronidazole - [**2155-3-4**] 12:24 PM
   Vancomycin - [**2155-3-4**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-3-4**] 08:44 AM
   Furosemide (Lasix) - [**2155-3-4**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-5**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 87 (87 - 130) bpm
   BP: 76/54(64) {70/33(45) - 116/62(79)} mmHg
   RR: 19 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,813 mL
                                                                    431 mL
   PO:
             TF:
                                                                  1,103 mL
                                                                    337 mL
   IVF:
                                                                    710 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                  1,345 mL
   Urine:
                                                                  2,340 mL
                                                                  1,320 mL
   NG:
                                                                     25 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                   -914 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 385 (286 - 442) mL
   PS : 12 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 121
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Thin, NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), fixed
   split S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, chronic GVHD
   Neurologic: Attentive, Follows commands
   Labs / Radiology
   173 K/uL
   7.0 g/dL
   104 mg/dL
   1.5 mg/dL
   36 mEq/L
   4.0 mEq/L
   29 mg/dL
   97 mEq/L
   138 mEq/L
   21.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2155-3-1**]  06:05 PM
                             [**2155-3-1**]  07:44 PM
                             [**2155-3-1**]  08:01 PM
                             [**2155-3-2**]  04:16 AM
                             [**2155-3-2**]  03:36 PM
                             [**2155-3-3**]  04:20 AM
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
   WBC
   9.6
   8.4
   7.9
   10.5
   9.9
   Hct
   23.7
   23.7
   23.5
   23.2
   21.9
   Plt
   [**Telephone/Fax (3) 11468**]84
   173
   Cr
   1.5
   1.4
   1.4
   1.3
   1.4
   1.4
   1.5
   TCO2
   34
   36
   38
   Glucose
   129
   138
   106
   161
   92
   108
   104
   Other labs: PT / PTT / INR:12.7/26.4/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed which revealed a pH of
   7.14 and a PCO2 - >110.  The decision was made to intubate and
   anesthesia came and performed a right nare intubation.   The
   differential included worsening aspiration pneumonia, flash pulmonary
   edema given persistent tachycardia, and PE.   Pt noted to have a
   persistnet/increasing RLL infiltrate on CXR, and newly elevated white
   count, making aspiration pneumonia the most likely explanation.    PE
   is lower on our differential given the absence of tachypnea and more
   likely explanation.  LENI
s neg and poor candidate for CTA given [**Last Name (un) **].
   CXR was not c/w flash.
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs) D6/10-14
   - cont lasix gtt with goal 2L negative
   - Nasally intubated
   .
   >. GOALS OF CARE: Fam leaning toward terminal extubation, no trach or
   PEG. Would go home with hospice. Likely with midline for pain meds, but
   no active rate control. Need to continually discuss with family and
   heme/onc.
   - d/w fam and Dr. [**Last Name (STitle) 1750**] upon return
   - c/s palliative care after above
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently well rate controlled with PO dilt. Will likely stop rate
   control if extubated since unsafe to take POs. Not candidate for
   anticoagulation given poor longterm prognosis.
   .
 ANEMIA, OTHER
   Hct drop this AM but no obvious source blood loss. All lines down
   despite diuresis.
   - PM CBC
   - guiaic stools
   - transfusion goal >21
 ALKALOSIS, METABOLIC
   Likely compensatory metabolic alkalosis given his recent history of
   marked CO2 retention.
   - follow electrolytes -> replete with KCl
   - follow ABGs if clinical change
   .
   >  ACUTE RENAL INSUFFICIENCY
   Likely pre-renal, Feurea 22. Difficult to interpret since patient seems
   volume overloaded with dependent edema and bilateral pleural effusions
   with fluid in major fissure. TBB goal 1-2 L negative today with IV
   Lasix gtt
   - renally dose meds
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Arterial Line - [**2155-3-1**] 02:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2155-03-05 13:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerated 30 minute SBT this afternoon.
   No new complaints.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-3-3**] 12:00 PM
   Azithromycin - [**2155-3-3**] 07:30 PM
   Metronidazole - [**2155-3-4**] 12:24 PM
   Vancomycin - [**2155-3-4**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2155-3-4**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-3-5**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.8
C (96.5
   HR: 87 (87 - 88) bpm
   BP: 97/48(63) {76/39(54) - 112/62(79)} mmHg
   RR: 5 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,813 mL
                                                                    793 mL
   PO:
             TF:
                                                                  1,103 mL
                                                                    571 mL
   IVF:
                                                                    710 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                  1,985 mL
   Urine:
                                                                  2,340 mL
                                                                  1,960 mL
   NG:
                                                                     25 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                 -1,192 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 210 (210 - 389) mL
   PS : 12 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 121
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 9.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, firm to touch
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.0 g/dL
   173 K/uL
   104 mg/dL
   1.5 mg/dL
   36 mEq/L
   4.0 mEq/L
   29 mg/dL
   97 mEq/L
   138 mEq/L
   21.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2155-3-1**]  06:05 PM
                             [**2155-3-1**]  07:44 PM
                             [**2155-3-1**]  08:01 PM
                             [**2155-3-2**]  04:16 AM
                             [**2155-3-2**]  03:36 PM
                             [**2155-3-3**]  04:20 AM
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
   WBC
   9.6
   8.4
   7.9
   10.5
   9.9
   Hct
   23.7
   23.7
   23.5
   23.2
   21.9
   Plt
   [**Telephone/Fax (3) 11468**]84
   173
   Cr
   1.5
   1.4
   1.4
   1.3
   1.4
   1.4
   1.5
   TCO2
   34
   36
   38
   Glucose
   129
   138
   106
   161
   92
   108
   104
   Other labs: PT / PTT / INR:12.7/26.4/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- predominately ventilatory failure, suspect
   multifactorial, attributed to evolving RLL pneumonia (aspiration),
   perhaps component of narcotic use (pain management), on background of
   extensive advanced lung disease.  Plan continue mechanical ventilation,
   monitor respiratory tract secretions, monitor ABG.  Hopefully will be
   able to demonstrate clinical response to pneumonia, and hope to work
   towards extubation.   No plans to proceed with trach if unable to
   extubate.
   HYPOTENSION -- Resolved.  Monitor BP and MAP, maintain MAP >60 mmHg.
   TACHYCARDIA -- A-flutter, controlled on Diltiazem.  Continue chemical
   control.  No plans for ablation procedure.
   PULMONARY INFILTRATES -- RLL infiltrate, treated as aspiration
   pneumonia.  Continue broad antimicrobials to cover for HCAP.
   FLUIDS -- Hypovolemia.  Plan net expand intravascular volume.  Monitor
   I/O.
   NUTRIONAL SUPPORT -- Tolerating TF at goal.  No plan for PEG.
   GVHD
 continue current level of care.
   CML -- s/p transplant, complicated by chronic GVHD and bronchiolitis
   obliterans.
   SEIZURES -- no clinical evidence for motor seizure.  With transient and
   reversible mental status changes, need to consider partial complex
   seizures (temporal lobe locus of CNS abnormalities).  Would check
   continuous EEG, consider repeat Neurological consulation to
   specifically address question of paritial complex seizures.  Continue
   Keppra.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Arterial Line - [**2155-3-1**] 02:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-03-06 07:47:00 Physician Resident Progress Note
Chief Complaint: a. flutter with RVR, hypercapneic respiratory failure
   with aspiration pneumonia
   24 Hour Events:
   - SBT- RSBI 81 but RR30, VT high 200s
   - Hct dropped in AM, but stable at PM check
   - BUN/Cr starting to bump with lasix gtt
   - a-line failed
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAmphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2155-3-4**] 12:24 PM
   Cefipime - [**2155-3-5**] 06:10 PM
   Vancomycin - [**2155-3-5**] 08:10 PM
   Azithromycin - [**2155-3-5**] 09:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Fentanyl - [**2155-3-5**] 08:45 PM
   Midazolam (Versed) - [**2155-3-5**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   c/o throat pain, otherwise no complaints; denies dyspnea
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Flowsheet Data as of  [**2155-3-6**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 86 (85 - 88) bpm
   BP: 107/61(71) {89/51(61) - 111/70(75)} mmHg
   RR: 23 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,225 mL
                                                                    619 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    348 mL
   IVF:
                                                                    993 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  3,575 mL
                                                                    680 mL
   Urine:
                                                                  3,550 mL
                                                                    680 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,350 mL
                                                                    -61 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 309 (210 - 368) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 157
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Widely split ), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   185 K/uL
   6.9 g/dL
   116 mg/dL
   1.6 mg/dL
   36 mEq/L
   4.1 mEq/L
   30 mg/dL
   94 mEq/L
   136 mEq/L
   21.0 %
   8.8 K/uL
        [image002.jpg]
                             [**2155-3-1**]  08:01 PM
                             [**2155-3-2**]  04:16 AM
                             [**2155-3-2**]  03:36 PM
                             [**2155-3-3**]  04:20 AM
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
                             [**2155-3-5**]  03:45 PM
                             [**2155-3-6**]  06:43 AM
   WBC
   8.4
   7.9
   10.5
   9.9
   10.7
   8.8
   Hct
   23.7
   23.5
   23.2
   21.9
   21.7
   21.0
   Plt
   221
   198
   184
   173
   180
   185
   Cr
   1.4
   1.4
   1.3
   1.4
   1.4
   1.5
   1.6
   TCO2
   36
   38
   Glucose
   138
   106
   161
   92
   108
   104
   116
   Other labs: PT / PTT / INR:12.7/26.4/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   Assessment and Plan
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed which revealed a pH of
   7.14 and a PCO2 - >110.  The decision was made to intubate and
   anesthesia came and performed a right nare intubation.   The
   differential included worsening aspiration pneumonia, flash pulmonary
   edema given persistent tachycardia, and PE.   Pt noted to have a
   persistnet/increasing RLL infiltrate on CXR, and newly elevated white
   count, making aspiration pneumonia the most likely explanation.    PE
   is lower on our differential given the absence of tachypnea and more
   likely explanation.  LENI
s neg and poor candidate for CTA given [**Last Name (un) **].
   CXR was not c/w flash.
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs) today D7/10-14
   - cont lasix gtt with goal 1-2L negative
   - Nasally intubated
   .
   >. GOALS OF CARE: Fam leaning toward terminal extubation, no trach or
   PEG. Would go home with hospice. Likely with midline for pain meds, but
   no active rate control. Need to continually discuss with family and
   heme/onc.  Patient needs current
   - d/w fam and Dr. [**Last Name (STitle) 1750**] today
   - c/s palliative care after above
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently well rate controlled with PO dilt. Will likely stop rate
   control if extubated since unsafe to take POs. Not candidate for
   anticoagulation given poor longterm prognosis.
   .
 ANEMIA, OTHER
   Hct 21 this morning but no obvious source blood loss. All lines down
   despite diuresis.
   - PM CBC after transfusion
   - guiaic stools
   - transfusion goal >21, will transfuse one unit PRBC today
 ALKALOSIS, METABOLIC
   Likely compensatory metabolic alkalosis given his recent history of
   marked CO2 retention.  A-line failed
   - follow electrolytes -> replete with KCl
   - follow ABGs if clinical change
   - will check VBG today to assess degree of hypercapnea
   .
   >  ACUTE RENAL INSUFFICIENCY
   Likely pre-renal, Feurea 22. Difficult to interpret since patient seems
   volume overloaded with dependent edema and bilateral pleural effusions
   with fluid in major fissure. TBB goal 1-2 L negative today with IV
   Lasix gtt
   - renally dose meds
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-5**] 10:43 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Arterial Line - [**2155-3-1**] 02:30 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  pantoprazole
   VAP:    cefepime, flagyl, vanc
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2155-03-06 14:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated (nasal), mechanically ventilated.
   Poor tolerance for SBT.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-3-5**] 09:30 PM
   Vancomycin - [**2155-3-6**] 09:13 AM
   Cefipime - [**2155-3-6**] 11:49 AM
   Metronidazole - [**2155-3-6**] 11:49 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Fentanyl - [**2155-3-5**] 08:45 PM
   Midazolam (Versed) - [**2155-3-5**] 09:15 PM
   Pantoprazole (Protonix) - [**2155-3-6**] 08:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-3-6**] 02:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 87 (85 - 88) bpm
   BP: 113/60(72) {89/48(60) - 113/70(75)} mmHg
   RR: 21 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,235 mL
                                                                  1,412 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    623 mL
   IVF:
                                                                  1,003 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  3,575 mL
                                                                  1,550 mL
   Urine:
                                                                  3,550 mL
                                                                  1,550 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,340 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 335 (309 - 368) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 210
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///41/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Right eye with patch
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Nasal intubation
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash: GVHD, vitiligo, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.9 g/dL
   185 K/uL
   107 mg/dL
   1.7 mg/dL
   41 mEq/L
   3.4 mEq/L
   31 mg/dL
   93 mEq/L
   138 mEq/L
   21.0 %
   8.8 K/uL
        [image002.jpg]
                             [**2155-3-1**]  08:01 PM
                             [**2155-3-2**]  04:16 AM
                             [**2155-3-2**]  03:36 PM
                             [**2155-3-3**]  04:20 AM
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
                             [**2155-3-5**]  03:45 PM
                             [**2155-3-6**]  06:43 AM
   WBC
   8.4
   7.9
   10.5
   9.9
   10.7
   8.8
   Hct
   23.7
   23.5
   23.2
   21.9
   21.7
   21.0
   Plt
   221
   198
   184
   173
   180
   185
   Cr
   1.4
   1.4
   1.3
   1.4
   1.4
   1.5
   1.6
   1.7
   TCO2
   36
   38
   Glucose
   138
   106
   161
   92
   108
   104
   116
   107
   Other labs: PT / PTT / INR:12.7/26.4/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- predominately ventilatory failure, suspect
   multifactorial, attributed to evolving RLL pneumonia (aspiration),
   perhaps component of narcotic use (pain management), on background of
   extensive advanced lung disease.  Plan continue mechanical ventilation,
   monitor respiratory tract secretions, monitor ABG or VBG.  Hopefully
   will be able to demonstrate clinical response to pneumonia, and hope to
   work towards extubation.   No plans to proceed with trach if unable to
   extubate.
   HYPOTENSION -- Resolved.  Monitor BP and MAP, maintain MAP >60 mmHg.
   TACHYCARDIA -- A-flutter, controlled on Diltiazem.  Continue chemical
   control.  No plans for ablation procedure.
   PULMONARY INFILTRATES -- RLL infiltrate, treated as aspiration
   pneumonia.  Continue broad antimicrobials to cover for HCAP.
   HYPOKALEMIA
 replete to K> 4.0
   FLUIDS -- Hypovolemia.  Plan net expand intravascular volume.  Monitor
   I/O.
   NUTRIONAL SUPPORT -- Tolerating TF at goal.  No plan for PEG.
   GVHD
 continue current level of care.
   CML -- s/p transplant, complicated by chronic GVHD and bronchiolitis
   obliterans.
   SEIZURES -- no clinical evidence for motor seizure.  With transient and
   reversible mental status changes, need to consider partial complex
   seizures (temporal lobe locus of CNS abnormalities).  Would check
   continuous EEG, consider repeat Neurological consulation to
   specifically address question of paritial complex seizures.  Continue
   Keppra.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-6**] 09:15 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-03-07 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - cont diuresis, treatment for aspiration
   - pt refused one unit PRBC, repeat Hct stable
   - added VBG to morning labs
   - Dr. [**Last Name (STitle) 1750**] met with family in evening, [**Hospital Unit Name 44**] team did not speak with
   him, [**Female First Name (un) 11483**] emailed him to set up meeting tomorrow RE: goals of care
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-3-5**] 09:30 PM
   Cefipime - [**2155-3-6**] 11:49 AM
   Metronidazole - [**2155-3-6**] 11:49 AM
   Vancomycin - [**2155-3-6**] 08:10 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-3-6**] 08:46 AM
   Morphine Sulfate - [**2155-3-6**] 02:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-7**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 86 (85 - 92) bpm
   BP: 105/57(66) {95/47(59) - 116/66(77)} mmHg
   RR: 17 (0 - 30) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,491 mL
                                                                    670 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    309 mL
   IVF:
                                                                  1,101 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                    840 mL
   Urine:
                                                                  2,990 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -499 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 327 (304 - 340) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 137
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///40/
   Ve: 5.2 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Widely split ), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   173 K/uL
   6.7 g/dL
   113 mg/dL
   2.0 mg/dL
   40 mEq/L
   3.5 mEq/L
   33 mg/dL
   90 mEq/L
   135 mEq/L
   20.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2155-3-2**]  03:36 PM
                             [**2155-3-3**]  04:20 AM
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
                             [**2155-3-5**]  03:45 PM
                             [**2155-3-6**]  06:43 AM
                             [**2155-3-6**]  08:45 PM
                             [**2155-3-7**]  02:52 AM
   WBC
   7.9
   10.5
   9.9
   10.7
   8.8
   8.0
   Hct
   23.5
   23.2
   21.9
   21.7
   21.0
   21.2
   20.5
   Plt
   198
   184
   173
   180
   185
   173
   Cr
   1.4
   1.3
   1.4
   1.4
   1.5
   1.6
   1.7
   2.0
   TCO2
   38
   Glucose
   106
   161
   92
   108
   104
   116
   107
   113
   Other labs: PT / PTT / INR:12.7/26.4/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed which revealed a pH of
   7.14 and a PCO2 - >110.  The decision was made to intubate and
   anesthesia came and performed a right nare intubation.   The
   differential included worsening aspiration pneumonia, flash pulmonary
   edema given persistent tachycardia, and PE.   Pt noted to have a
   persistnet/increasing RLL infiltrate on CXR, and newly elevated white
   count, making aspiration pneumonia the most likely explanation.    PE
   is lower on our differential given the absence of tachypnea and more
   likely explanation.  LENI
s neg and poor candidate for CTA given [**Last Name (un) **].
   CXR was not c/w flash.
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs) today D8/10-14
   - D/C lasix drip as causing alkalemia and no and azotemia without
   improved UOP
   - Nasally intubated
   .
   >. GOALS OF CARE: Fam leaning toward terminal extubation, no trach or
   PEG. Would go home with hospice. Likely with midline for pain meds, but
   no active rate control. Need to continually discuss with family and
   heme/onc.  Patient needs current
   - Get details of meeting with Dr. [**Last Name (STitle) 1750**]
   - c/s palliative care after above
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently well rate controlled with PO dilt. Will likely stop rate
   control if extubated since unsafe to take POs. Not candidate for
   anticoagulation given poor longterm prognosis.
   .
 ANEMIA, OTHER
   Hct 21 this morning but no obvious source blood loss. All lines down
   despite diuresis.
   - Patient is refusing blood
   - guiaic stools
   - transfusion goal >21, will transfuse one unit PRBC today
   .
 ALKALOSIS, METABOLIC
   Likely contraction exacerbation of  baseline compensatory metabolic
   alkalosis given his recent history of marked CO2 retention.  A-line
   failed
   - follow electrolytes -> replete with KCl
   - follow ABGs if clinical change
   - will check VBG today to assess degree of hypercapnea
   .
   >  ACUTE RENAL INSUFFICIENCY
   Likely pre-renal, Feurea 22. Difficult to interpret since patient seems
   volume overloaded with dependent edema and bilateral pleural effusions
   with fluid in major fissure. TBB goal 1-2 L negative today with IV
   Lasix gtt
   - renally dose meds
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-5**] 10:43 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Arterial Line - [**2155-3-1**] 02:30 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  pantoprazole
   VAP:    cefepime, flagyl, vanc
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2155-03-07 13:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated (nasal), mechanically ventilated.
   Sedated.  Appears and indicates he is comfortable.
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2155-3-7**] 07:59 AM
   Acyclovir - [**2155-3-7**] 08:00 AM
   Azithromycin - [**2155-3-7**] 09:16 AM
   Cefipime - [**2155-3-7**] 11:54 AM
   Metronidazole - [**2155-3-7**] 11:54 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2155-3-6**] 02:26 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-3-7**] 01:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 79 (79 - 92) bpm
   BP: 100/59(69) {95/47(59) - 116/66(77)} mmHg
   RR: 14 (0 - 26) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,491 mL
                                                                  1,504 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    570 mL
   IVF:
                                                                  1,101 mL
                                                                    794 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                  1,365 mL
   Urine:
                                                                  2,990 mL
                                                                  1,365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -499 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 245 (245 - 340) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 137
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///40/
   Ve: 19.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Right eye taped closed
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: GVHD, No(t) Jaundice, Vitiligo
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Mental status inconsistent to
   orientation and understanding
   Labs / Radiology
   6.7 g/dL
   173 K/uL
   113 mg/dL
   2.0 mg/dL
   40 mEq/L
   3.5 mEq/L
   33 mg/dL
   90 mEq/L
   135 mEq/L
   20.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2155-3-2**]  03:36 PM
                             [**2155-3-3**]  04:20 AM
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
                             [**2155-3-5**]  03:45 PM
                             [**2155-3-6**]  06:43 AM
                             [**2155-3-6**]  08:45 PM
                             [**2155-3-7**]  02:52 AM
   WBC
   7.9
   10.5
   9.9
   10.7
   8.8
   8.0
   Hct
   23.5
   23.2
   21.9
   21.7
   21.0
   21.2
   20.5
   Plt
   198
   184
   173
   180
   185
   173
   Cr
   1.4
   1.3
   1.4
   1.4
   1.5
   1.6
   1.7
   2.0
   TCO2
   38
   Glucose
   106
   161
   92
   108
   104
   116
   107
   113
   Other labs: PT / PTT / INR:12.7/26.4/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- No significant predominately ventilatory
   failure, suspect multifactorial, attributed to evolving RLL pneumonia
   (aspiration), perhaps component of narcotic use (pain management), on
   background of extensive advanced lung disease.  Plan continue
   mechanical ventilation, monitor respiratory tract secretions, monitor
   ABG or VBG.  Hopefully will be able to demonstrate clinical response to
   pneumonia, and hope to work towards extubation.   No plans to proceed
   with trach if unable to extubate.
   HYPOTENSION -- Resolved.  Monitor BP and MAP, maintain MAP >60 mmHg.
   TACHYCARDIA -- A-flutter, controlled on Diltiazem.  Continue chemical
   control.  No plans for ablation procedure.
   PULMONARY INFILTRATES -- RLL infiltrate, treated as aspiration
   pneumonia.  Continue broad antimicrobials to cover for HCAP.
   HYPOKALEMIA
 replete to K> 4.0
   FLUIDS -- Hypovolemia.  Plan net expand intravascular volume.  Monitor
   I/O.
   NUTRIONAL SUPPORT -- Tolerating TF at goal.  No plan for PEG.
   GVHD
 continue current level of care.
   CML -- s/p transplant, complicated by chronic GVHD and bronchiolitis
   obliterans.
   SEIZURES -- no clinical evidence for motor seizure.  With transient and
   reversible mental status changes, need to consider partial complex
   seizures (temporal lobe locus of CNS abnormalities).  Would check
   continuous EEG, consider repeat Neurological consulation to
   specifically address question of paritial complex seizures.  Continue
   Keppra.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-7**] 05:35 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Updated family during meeting.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-03-08 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   O/N bolused 1 L for low UOP, responded
   This AM, had episode tachycardia 170s, desat to 85%
   Gave IV dilt and lasix, CXR looked unchanged
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-3-7**] 09:16 AM
   Cefipime - [**2155-3-7**] 11:54 AM
   Vancomycin - [**2155-3-7**] 08:00 PM
   Metronidazole - [**2155-3-7**] 08:00 PM
   Acyclovir - [**2155-3-7**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Diltiazem - [**2155-3-8**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-8**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 142 (78 - 142) bpm
   BP: 110/61(69) {81/47(59) - 123/80(86)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,450 mL
                                                                  1,500 mL
   PO:
             TF:
                                                                  1,085 mL
                                                                    313 mL
   IVF:
                                                                  1,135 mL
                                                                  1,087 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    220 mL
   Urine:
                                                                  2,040 mL
                                                                    195 mL
   NG:
                                                                     35 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    375 mL
                                                                  1,280 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 257 (240 - 307) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 119
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///37/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Widely split ), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   200 K/uL
   6.9 g/dL
   87 mg/dL
   2.2 mg/dL
   37 mEq/L
   4.3 mEq/L
   39 mg/dL
   95 mEq/L
   137 mEq/L
   22.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2155-3-3**]  04:20 AM
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
                             [**2155-3-5**]  03:45 PM
                             [**2155-3-6**]  06:43 AM
                             [**2155-3-6**]  08:45 PM
                             [**2155-3-7**]  02:52 AM
                             [**2155-3-8**]  03:18 AM
   WBC
   7.9
   10.5
   9.9
   10.7
   8.8
   8.0
   7.8
   Hct
   23.5
   23.2
   21.9
   21.7
   21.0
   21.2
   20.5
   22.0
   Plt
   198
   184
   173
   180
   185
   173
   200
   Cr
   1.4
   1.3
   1.4
   1.4
   1.5
   1.6
   1.7
   2.0
   2.2
   Glucose
   106
   161
   92
   108
   104
   116
   107
   113
   87
   Other labs: PT / PTT / INR:12.7/26.0/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed which revealed a pH of
   7.14 and a PCO2 - >110.  The decision was made to intubate and
   anesthesia came and performed a right nare intubation.   Most likely
   [**3-11**] worsening aspiration pneumonia w/ persistent/increasing RLL
   infiltrate on CXR, and newly elevated white count. Now nearing
   completion of VAP tx, has been aggressively diuresed for bilateral
   pleural effusions. Continues to have thick yellow secretions (possibly
   sinus). This AM, likely had aspiration of these secretions vs. mucous
   plug, resolved. Barriers to exubate are underlying end-stage lung
   disease and secretions.
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs) today D9/10
   - daily SBT
   .
   >. GOALS OF CARE: Fam leaning toward terminal extubation, no trach or
   PEG. Would go home with hospice. Likely with midline for pain meds, but
   no active rate control. Need to continually discuss with family and
   heme/onc.  Patient needs current
   - multi-team mtg Monday
   - discuss with patient, switch to propofol tomorrow in anticipation
   - c/s palliative care after above
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently rate controlled with PO dilt, rates increased to 170s this AM
   while pt being cleaned, responded to IV dilt. Not candidate for
   anticoagulation given poor longterm prognosis.
   .
   >  ACUTE RENAL INSUFFICIENCY
   Likely pre-renal, probably with ATN component now given continued
   worsening since D/C lasix gtt. Likely over-diresed, but unable to give
   back fluids without increasing pleural effusions and secretions.
   - cont to monitor BUN, Cr
   - renally dose meds
   - goal even to positive today
   .
 ANEMIA, OTHER
   Hct stable.
   - Patient is refusing blood
   .
 ALKALOSIS, METABOLIC
   Likely contraction exacerbation of  baseline compensatory metabolic
   alkalosis given his recent history of marked CO2 retention.
   - follow electrolytes -> replete with KCl
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-5**] 10:43 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Arterial Line - [**2155-3-1**] 02:30 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  pantoprazole
   VAP:    cefepime, flagyl, vanc
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2155-03-08 11:20:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues intubated
   Poor urine output overnight, IVF bolus given with improvement
   More tachycardic overnight with associated desaturations to high 80's;
   given diltiazem for rate control and lasix (not responsive to the
   lasix).
   Suctioned for large amount of thin yellow secretions per nasal tracheal
   tube
   History obtained from Patient
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-3-7**] 09:16 AM
   Cefipime - [**2155-3-7**] 11:54 AM
   Vancomycin - [**2155-3-7**] 08:00 PM
   Metronidazole - [**2155-3-7**] 08:00 PM
   Acyclovir - [**2155-3-7**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Diltiazem - [**2155-3-8**] 06:50 AM
   Furosemide (Lasix) - [**2155-3-8**] 07:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-3-8**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 126 (78 - 142) bpm
   BP: 106/57(68) {81/47(59) - 123/80(105)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,450 mL
                                                                  1,734 mL
   PO:
             TF:
                                                                  1,085 mL
                                                                    496 mL
   IVF:
                                                                  1,135 mL
                                                                  1,138 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    300 mL
   Urine:
                                                                  2,040 mL
                                                                    275 mL
   NG:
                                                                     35 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    375 mL
                                                                  1,434 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 296 (240 - 307) mL
   PS : 15 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 119
   PIP: 25 cmH2O
   SpO2: 99%
   ABG: ///37/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NTT
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bialterally anterolaterally)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   200 K/uL
   87 mg/dL
   2.2 mg/dL
   37 mEq/L
   4.3 mEq/L
   39 mg/dL
   95 mEq/L
   137 mEq/L
   22.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2155-3-3**]  04:20 AM
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
                             [**2155-3-5**]  03:45 PM
                             [**2155-3-6**]  06:43 AM
                             [**2155-3-6**]  08:45 PM
                             [**2155-3-7**]  02:52 AM
                             [**2155-3-8**]  03:18 AM
   WBC
   7.9
   10.5
   9.9
   10.7
   8.8
   8.0
   7.8
   Hct
   23.5
   23.2
   21.9
   21.7
   21.0
   21.2
   20.5
   22.0
   Plt
   198
   184
   173
   180
   185
   173
   200
   Cr
   1.4
   1.3
   1.4
   1.4
   1.5
   1.6
   1.7
   2.0
   2.2
   Glucose
   106
   161
   92
   108
   104
   116
   107
   113
   87
   Other labs: PT / PTT / INR:12.7/26.0/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR:  NTT adequately placed, no change in
   infiltrates/effusions
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE ON CHRONIC:  Secondary to aspiration
   pneumonia superimposed on bronchiolitis obliterans secondary to chronic
   GVH.  Continues to have moderate to large amount of secretions.
   Continue antibiotics.
 ATRIAL FLUTTER (AFLUTTER) with RVR:  On oral diltiazem. Transient
   tachyarrhythmia overnight, may have been over diuresed.
 ANEMIA, OTHER:  Patient refused transfusion for hct 20 yesterday, up
   on its own today.
 ALTERED MENTAL STATUS (NOT DELIRIUM):
 ACUTE RENAL FAILURE:  Now exacerbated by overdiuresis, allowing him
   to be even to positive again today.
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-8**] 02:48 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Comments: Tube feeds at goal
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2155-03-09 07:50:00 Physician Resident Progress Note
Chief Complaint: hypercapneic resp failure, aspiration pneumonia
   24 Hour Events:
   - bolused 500cc for UOP with no effect, UOP remained poor
   - sent U lytes
   - IP team would be able to do percut trach in OR if that is decision
   - plan is switch to propofol Sunday and allow [**Doctor First Name 831**] to clear so that he
   may be involved in decision for mtg Monday
   - agitated overnight, HR 140s, wants us to call 911, gave haldol
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAmphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-3-7**] 09:16 AM
   Acyclovir - [**2155-3-7**] 08:00 PM
   Cefipime - [**2155-3-8**] 12:23 PM
   Vancomycin - [**2155-3-8**] 08:00 PM
   Metronidazole - [**2155-3-9**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-3-8**] 08:00 AM
   Haloperidol (Haldol) - [**2155-3-9**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   denies pain this morning
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2155-3-9**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 84 (83 - 165) bpm
   BP: 100/67(75) {89/47(59) - 118/81(105)} mmHg
   RR: 20 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,676 mL
                                                                     97 mL
   PO:
             TF:
                                                                    316 mL
   IVF:
                                                                  2,260 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    150 mL
   Urine:
                                                                    470 mL
                                                                    150 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  2,181 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 398 (296 - 398) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI: 232
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregular, tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   235 K/uL
   6.6 g/dL
   85 mg/dL
   3.0 mg/dL
   37 mEq/L
   4.5 mEq/L
   44 mg/dL
   91 mEq/L
   134 mEq/L
   19.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
                             [**2155-3-5**]  03:45 PM
                             [**2155-3-6**]  06:43 AM
                             [**2155-3-6**]  08:45 PM
                             [**2155-3-7**]  02:52 AM
                             [**2155-3-8**]  03:18 AM
                             [**2155-3-9**]  05:05 AM
   WBC
   10.5
   9.9
   10.7
   8.8
   8.0
   7.8
   8.9
   Hct
   23.2
   21.9
   21.7
   21.0
   21.2
   20.5
   22.0
   19.8
   Plt
   184
   173
   180
   185
   173
   200
   235
   Cr
   1.3
   1.4
   1.4
   1.5
   1.6
   1.7
   2.0
   2.2
   3.0
   Glucose
   161
   92
   108
   104
   116
   107
   113
   87
   85
   Other labs: PT / PTT / INR:12.7/26.0/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: FeNa 0.7, FeUrea 33.5
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   >  RENAL FAILURE
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed which revealed a pH of
   7.14 and a PCO2 - >110.  The decision was made to intubate and
   anesthesia came and performed a right nare intubation.   Most likely
   [**3-11**] worsening aspiration pneumonia w/ persistent/increasing RLL
   infiltrate on CXR, and newly elevated white count. Now nearing
   completion of VAP tx, has been aggressively diuresed for bilateral
   pleural effusions. Continues to have thick yellow secretions (possibly
   sinus). This AM, likely had aspiration of these secretions vs. mucous
   plug, resolved. Barriers to exubate are underlying end-stage lung
   disease and secretions.
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs), completed course today
   - will renally dose bactrim, flagyl given ARF
   - daily SBT
   .
   >. GOALS OF CARE: Fam leaning toward terminal extubation, no trach or
   PEG. Would go home with hospice. Likely with midline for pain meds, but
   no active rate control. Need to continually discuss with family and
   heme/onc.  Patient needs current
   - multi-team mtg Monday
   - discuss with patient, switch to propofol tomorrow in anticipation
   - c/s palliative care after above
   .
   Assessment and Plan
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed which revealed a pH of
   7.14 and a PCO2 - >110.  The decision was made to intubate and
   anesthesia came and performed a right nare intubation.   Most likely
   [**3-11**] worsening aspiration pneumonia w/ persistent/increasing RLL
   infiltrate on CXR, and newly elevated white count. Now nearing
   completion of VAP tx, has been aggressively diuresed for bilateral
   pleural effusions. Continues to have thick yellow secretions (possibly
   sinus). This AM, likely had aspiration of these secretions vs. mucous
   plug, resolved. Barriers to exubate are underlying end-stage lung
   disease and secretions.
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs) today D9/10
   - daily SBT
   .
   >. GOALS OF CARE: Fam leaning toward terminal extubation, no trach or
   PEG. Would go home with hospice. Likely with midline for pain meds, but
   no active rate control. Need to continually discuss with family and
   heme/onc.  Patient needs current
   - multi-team mtg Monday
   - discuss with patient, switch to propofol tomorrow in anticipation
   - c/s palliative care after above
   .
   >  ARF
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently rate controlled with PO dilt, rates increased to 170s this AM
   while pt being cleaned, responded to IV dilt. Not candidate for
   anticoagulation given poor longterm prognosis.
   .
   >  ACUTE RENAL INSUFFICIENCY
   Likely pre-renal, probably with ATN component now given continued
   worsening since D/C lasix gtt. Likely over-diresed, but unable to give
   back fluids without increasing pleural effusions and secretions.
   - cont to monitor BUN, Cr
   - renally dose meds
   - goal even to positive today
   .
 ANEMIA, OTHER
   Hct stable.
   - one unit PRBC today
   .
 ALKALOSIS, METABOLIC
   Likely contraction exacerbation of  baseline compensatory metabolic
   alkalosis given his recent history of marked CO2 retention.
   - follow electrolytes -> replete with KCl
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently rate controlled with PO dilt, rates increased to 170s this AM
   while pt being cleaned, responded to IV dilt. Not candidate for
   anticoagulation given poor longterm prognosis.
   .
   >  ACUTE RENAL INSUFFICIENCY
   Likely pre-renal, probably with ATN component now given continued
   worsening since D/C lasix gtt. Likely over-diresed, but unable to give
   back fluids without increasing pleural effusions and secretions.
   - cont to monitor BUN, Cr
   - renally dose meds
   - goal even to positive today
   .
 ANEMIA, OTHER
   Hct stable.
   - Patient is refusing blood
   .
 ALKALOSIS, METABOLIC
   Likely contraction exacerbation of  baseline compensatory metabolic
   alkalosis given his recent history of marked CO2 retention.
   - follow electrolytes -> replete with KCl
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont ppx with azithromycin, bactrim and acyclovir IV
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-03-09 10:47:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Agitated, tachycardic, evidence of delerium (asking to call the police)
   - received haldol with improvement
   Minimal secretions via NTT
   Urine output poor overnight, bolused overnight with improvement
   Transfused one unit pRBCs for hct 19
   Patient unable to provide history: Sedated
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-3-7**] 09:16 AM
   Acyclovir - [**2155-3-7**] 08:00 PM
   Cefipime - [**2155-3-8**] 12:23 PM
   Vancomycin - [**2155-3-8**] 08:00 PM
   Metronidazole - [**2155-3-9**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2155-3-9**] 02:45 AM
   Pantoprazole (Protonix) - [**2155-3-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-3-9**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 124 (83 - 165) bpm
   BP: 102/54(64) {89/47(59) - 118/81(89)} mmHg
   RR: 17 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
           Total In:
                                                                  2,676 mL
                                                                    477 mL
   PO:
           TF:
                                                                    316 mL
   IVF:
                                                                  2,260 mL
                                                                    140 mL
   Blood products:
   337 mL
   Total out:
                                                                    495 mL
                                                                    185 mL
   Urine:
                                                                    470 mL
                                                                    185 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  2,181 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 428 (331 - 428) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 232
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered
   anterolaterally, Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.6 g/dL
   235 K/uL
   85 mg/dL
   3.0 mg/dL
   37 mEq/L
   4.5 mEq/L
   44 mg/dL
   91 mEq/L
   134 mEq/L
   19.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2155-3-3**]  06:31 PM
                             [**2155-3-4**]  05:37 AM
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
                             [**2155-3-5**]  03:45 PM
                             [**2155-3-6**]  06:43 AM
                             [**2155-3-6**]  08:45 PM
                             [**2155-3-7**]  02:52 AM
                             [**2155-3-8**]  03:18 AM
                             [**2155-3-9**]  05:05 AM
   WBC
   10.5
   9.9
   10.7
   8.8
   8.0
   7.8
   8.9
   Hct
   23.2
   21.9
   21.7
   21.0
   21.2
   20.5
   22.0
   19.8
   Plt
   184
   173
   180
   185
   173
   200
   235
   Cr
   1.3
   1.4
   1.4
   1.5
   1.6
   1.7
   2.0
   2.2
   3.0
   Glucose
   161
   92
   108
   104
   116
   107
   113
   87
   85
   Other labs: PT / PTT / INR:12.7/26.0/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:77.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC:  Multi-factorial given chronic GVH/BO
   and aspiration pneumonia/VAP. Completed course of antibiotics today.
   Plan to change sedation to propofol so will be able to discuss his
   wanting to proceed with tracheostomy or not.
 ATRIAL FLUTTER (AFLUTTER) with RVR:  Controlled on diltiazem.
 ACUTE RENAL FAILURE:  Responsive to IVF challenge.  Likely prerenal.
   Check repeat afternoon lytes.
 ANEMIA, OTHER: No evidence of active bleeding, likey down related to
   ongoing phlebotomy.  Patient agreeable to transfusion, received 1 unit
   pRBCs. Repeat hct pending.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION:  Tube feeds at goal.
 H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2155-03-10 07:33:00 Physician Resident Progress Note
Chief Complaint: Acute on Chronic Respiratory Failure
   24 Hour Events:
   [**2155-3-9**]:
   - creatinine rising, sent u/a, cx, lytes, eos; urine lytes consistent
   with pre-renal physiology (FeNa 0.7, FeUrea 33.5)
   - received 2 units PRBCs for drifting Hct
   - NS 500 cc x 1 for marginal UOP
   - converting midaz, fent to propofol for easy on/off tomorrow during
   family meeting/goals of care
   - completed course of antibiotics for aspiration pneumonia
   - d/c'd prophylactic bactrim and acyclovir given renal failure
   - Haldol PRN for agitation, QTc okay 0.4 sec
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-3-7**] 09:16 AM
   Acyclovir - [**2155-3-7**] 08:00 PM
   Cefipime - [**2155-3-8**] 12:23 PM
   Vancomycin - [**2155-3-8**] 08:00 PM
   Metronidazole - [**2155-3-9**] 04:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-3-9**] 08:00 AM
   Fentanyl - [**2155-3-10**] 02:00 AM
   Diltiazem - [**2155-3-10**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-10**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 147 (80 - 161) bpm
   BP: 88/60(68) {77/53(61) - 114/78(86)} mmHg
   RR: 31 (0 - 31) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,572 mL
                                                                    292 mL
   PO:
             TF:
                                                                    320 mL
                                                                    149 mL
   IVF:
                                                                    817 mL
                                                                    113 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    330 mL
                                                                    100 mL
   Urine:
                                                                    330 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,242 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 289 (289 - 617) mL
   PS : 15 cmH2O
   RR (Spontaneous): 37
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 117
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: ///37/
   Ve: 10.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   266 K/uL
   8.4 g/dL
   87 mg/dL
   3.5 mg/dL
   37 mEq/L
   4.5 mEq/L
   48 mg/dL
   91 mEq/L
   134 mEq/L
   25.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2155-3-4**]  07:54 PM
                             [**2155-3-5**]  04:03 AM
                             [**2155-3-5**]  03:45 PM
                             [**2155-3-6**]  06:43 AM
                             [**2155-3-6**]  08:45 PM
                             [**2155-3-7**]  02:52 AM
                             [**2155-3-8**]  03:18 AM
                             [**2155-3-9**]  05:05 AM
                             [**2155-3-9**]  02:08 PM
                             [**2155-3-10**]  05:00 AM
   WBC
   9.9
   10.7
   8.8
   8.0
   7.8
   8.9
   8.3
   Hct
   21.9
   21.7
   21.0
   21.2
   20.5
   22.0
   19.8
   24.0
   25.0
   Plt
   173
   180
   185
   173
   200
   235
   266
   Cr
   1.4
   1.5
   1.6
   1.7
   2.0
   2.2
   3.0
   3.2
   3.5
   Glucose
   108
   104
   116
   107
   113
   87
   85
   132
   87
   Other labs: PT / PTT / INR:13.5/26.1/1.2, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:64.4 %, Band:0.0 %, Lymph:20.9
   %, Mono:13.1 %, Eos:1.3 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   On [**2-28**] Mr
   [**Known lastname 11322**] was noted to be in respiratory distress, somnolent,
   desaturating to the 80
s.  A VBG was performed which revealed a pH of
   7.14 and a PCO2 - >110.  The decision was made to intubate and
   anesthesia came and performed a right nare intubation.   Most likely
   [**3-11**] worsening aspiration pneumonia w/ persistent/increasing RLL
   infiltrate on CXR, and newly elevated white count. Now nearing
   completion of VAP tx, has been aggressively diuresed for bilateral
   pleural effusions. Continues to have thick yellow secretions (possibly
   sinus). Likely had aspiration of these secretions vs. mucous plug,
   resolved. Barriers to exubate are underlying end-stage lung disease
   (bronchiolitis obliterans), secretions, and weakness.
   - Cont Vanc/Cefepime/Flagyl for hospital acquired/aspiration/VAP (per
   abx approval recs) -> completed course today
   - daily SBT
   - transition sedation to propofol for rapid lifting of sedation in
   antipation of family meeting/goals of care tomorrow
   .
   >. GOALS OF CARE: Fam leaning toward terminal extubation, no trach or
   PEG. Would go home with hospice. Likely with midline for pain meds, but
   no active rate control. Need to continually discuss with family and
   heme/onc.  Patient needs current
   - multi-team mtg tomorrow
   - discuss with patient, switch to propofol today in anticipation of
   possible extubation tomorrow
   - c/s palliative care after above
   - haldol PRN for sedation after checking QTc
   .
   >  ARF
 Likely pre-renal, probably with ATN component now given
   continued worsening since D/C lasix gtt. Likely over-diresed, but
   unable to give back fluids without increasing pleural effusions and
   secretions.  urine lytes suggest pre-renal etiology.  UOP Responding to
   fluid bolus.  aggressive diuresis aided first extubation weeks ago
   - will transfuse two units PRBC today
   - consider small IVF boluses titrating to UOP today, although goal is
   even to one liter positive today
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   Currently rate controlled with PO dilt, rates increased to 170s this AM
   while pt being cleaned, responded to IV dilt. Not candidate for
   anticoagulation given poor long term prognosis.
   .
 ANEMIA, OTHER
   Hct stable.
   - two units PRBC today, post Tx Hct
   .
 ALKALOSIS, METABOLIC
   Likely contraction exacerbation of  baseline compensatory metabolic
   alkalosis given his recent history of marked CO2 retention.
   - follow electrolytes -> replete with KCl, avoided today given
   progressive [**Last Name (un) **]
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   Complicated by chronic GVHD and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont ppx with azithromycin, bactrim and acyclovir IV -> will renally
   dose
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:   SCDs
   Stress ulcer:  pantoprazole
   VAP:  completed course today
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-9**] 08:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-03-11 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2155-3-10**] 05:05 PM
   Renal
   Overnight
   - Family meeting: Pt adamant "I want a trach, I want to live no matter
   what."
   - Vanc level 94, repeat 89.
   - Renal u/s ordered per renal recs
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2155-3-8**] 12:23 PM
   Vancomycin - [**2155-3-8**] 08:00 PM
   Metronidazole - [**2155-3-9**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-11**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 81 (81 - 116) bpm
   BP: 87/48(58) {86/48(58) - 116/68(78)} mmHg
   RR: 21 (7 - 27) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,097 mL
                                                                    872 mL
   PO:
             TF:
                                                                    481 mL
                                                                    153 mL
   IVF:
                                                                    466 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                    293 mL
                                                                     40 mL
   Urine:
                                                                    293 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    804 mL
                                                                    832 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (285 - 397) mL
   PS : 15 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: ///37/
   Ve: 8.5 L/min
   Physical Examination
   HEENT: NG tube, ET tube
   CV: Tachy, no murmurs
   Resp: Rhonchi bl
   Abdom: Soft NT, ND
   Ext: No edema
   Labs / Radiology
   US Abdomen
   IMPRESSIONS:
   1. No hydronephrosis.
   2. Limited Doppler assessment due to unresponsive, intubated status of
   the
   patient. Blood flow demonstrated in both main renal arteries and veins.
   3. Small-to-moderate ascites.
   254 K/uL
   7.6 g/dL
   90 mg/dL
   4.1 mg/dL
   37 mEq/L
   4.2 mEq/L
   52 mg/dL
   93 mEq/L
   134 mEq/L
   22.3 %
   7.0 K/uL
        [image002.jpg]
                             [**2155-3-5**]  03:45 PM
                             [**2155-3-6**]  06:43 AM
                             [**2155-3-6**]  08:45 PM
                             [**2155-3-7**]  02:52 AM
                             [**2155-3-8**]  03:18 AM
                             [**2155-3-9**]  05:05 AM
                             [**2155-3-9**]  02:08 PM
                             [**2155-3-10**]  05:00 AM
                             [**2155-3-10**]  02:26 PM
                             [**2155-3-11**]  05:23 AM
   WBC
   10.7
   8.8
   8.0
   7.8
   8.9
   8.3
   8.2
   7.0
   Hct
   21.7
   21.0
   21.2
   20.5
   22.0
   19.8
   24.0
   25.0
   23.6
   22.3
   Plt
   180
   185
   173
   200
   235
   266
   271
   254
   Cr
   1.6
   1.7
   2.0
   2.2
   3.0
   3.2
   3.5
   3.8
   4.1
   Glucose
   116
   107
   113
   87
   85
   132
   87
   101
   90
   Other labs: PT / PTT / INR:13.1/25.5/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:64.4 %, Band:0.0 %, Lymph:20.9
   %, Mono:13.1 %, Eos:1.3 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   Heparin Allergy, Pneumonitis
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   Patient
   re-intubated on [**2-28**] for respiratory distress, somnolent, desaturating
   to the 80
s, likely [**3-11**] worsening aspiration pneumonia w/
   persistent/increasing RLL infiltrate on CXR, and elevated white count.
   Now patient has completed 7 day course for VAP tx (Vanc/Cefepime/Flagyl
   [**Date range (1) 11504**]) and has been aggressively diuresed for bilateral pleural
   effusions. Continues to have thick yellow secretions (possibly sinus).
   Likely had aspiration of these secretions vs. mucous plug, resolved.
   Barriers to exubate are underlying end-stage lung disease
   (bronchiolitis obliterans), secretions, and weakness.
   - Will discuss further re: trach
   - daily SBT
   - Sedation w/ propofol and fentanyl bolus
   .
   >  ARF
 Seen by renal, no hydronephrosis on ultrasound, but muddy
   brown casts evident on urine analysis.  Likely ATN secondary to
   possible vancomycin toxicity (elevated troughs 80s-90s) vs episodes of
   hypotension with a component of pre-renal from diuresis.
   - Trend urine output
   - Cont to hold bactrim and acyclovir
   - Appreciate renal
   - Goal is even
   - Monitor lytes
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   - Cont dilt for rate control. Not candidate for anticoagulation given
   poor long term prognosis.
   .
 ANEMIA, OTHER: Hct stable, s/p 2u pRBC.
   - Cont to trend
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont azithromycin
   - holding bactrim and acyclovir IV (given ARF as above)
   .
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:   SCDs
   Stress ulcer:  pantoprazole
   VAP:  completed course today
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 45M CML s/p BMT c/b BO / GVHD p/w resp
   failure. Creatinine rising (bactrim /. acyclovir held), transfused
   overnight.
   Exam notable for Tm 98.4 BP 111/70 HR 110 RR 18 with sat 100 on PSV
   15/8 0.5. Frail man, c/o pain in front of chest and in back. Follows
   some one-step commands. Coarse BS. Hyperdynamic s1s2. Soft +BS. Diffuse
   skin changes c/w GVHD. Labs notable for WBC 8K, HCT 25, K+ 4.5, Cr 3.5.
   Agree with plan to manage multifactorial respiratory failure with vent
   support - wean PSV as able and try SBT. For recurrent pneumonia, now
   off abx, recheck sputum today. Other components
 neuromuscular
   weakness / restriction, volume overload, BO, chronic aspiration more
   difficult to treat other than with ongoing support. ARF is progressive,
   poor UOP, hold bactrim / lasix / acyclovir and d/w renal and onc teams.
   Dilt for atrial flutter
 continue at current dose. Global issue of
   advanced lung disease and progressive ARF - will d/w Dr. [**Last Name (STitle) 1750**] and
   family today. Remainder of plan as outlined above.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-3-10**] 07:52 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 45M CML s/p BMT c/b BO / GVHD p/w resp
   failure. ARF with rising creatinine (bactrim / acyclovir held). Pt
   expressed wishes to pursue during  family mtg yesterday with onc (Dr.
   [**Last Name (STitle) 1750**].
   Exam notable for Tm 98.4 BP 80-116 sys  HR 81  RR 27  with sat 100 on
   PSV 15/8  0.5. Frail, cachectic man, alert and interactive (writing on
   pad), coarse BS. Hyperdynamic s1s2. Soft +BS, NT. Diffuse skin changes
   c/w GVHD. Labs notable for WBC 7K, HCT 22, K+ 4.2, Cr 4, BUN 52, inr
   1.1.  Renal us w/o hydro, sm ascites
   Agree with plan to manage multifactorial respiratory failure with
   continued vent support - w/ PSV, has failed SBTs.  Lung ds is end-stage
   and prognosis of this alone is very poor, now also with progressive
   ARF. Pt expresses wishes to pursue trach.  Will clarify this with onc
   (? PEG as well) and then d/w IP team best approach (bedside vs.
   OR). Has had recurrent pneumonia, remains off abx, AF w/o leukocytosis.
   Other components
 neuromuscular weakness / restriction, volume
   overload, BO, chronic aspiration more difficult to treat other than
   with ongoing support. ARF is likely from multiple
   medications, continues to make poor UOP.  We are holding bactrim /
   lasix / acyclovir, d/w renal and onc teams. No acute indication at this
   time for HD/CVVH, though will likely need in near future. Pain control
   and anixety remains an active issue--pt requests to stop fent gtt. Will
   start methadone, prn IV fentanyl continuing propofol. Initiate
   klonopin. Consider palliative care cs. Remains on dilt for atrial
   flutter
 continue at current dose. Remainder of plan as outlined
   above.ICU:  Boots, PPI, full code.
   Patient is critically ill
   Total time: 45 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2155-3-11**] 03:53 PM ------

2155-03-12 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-11**]
   -started on klonipim and haldol
   -writing sample in chart
   -trach and peg by IP tomorrow
   -if needes fentanyl boluses or having pain, consider methadone
   -family meeting had, status quo
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-3-11**] 09:07 AM
   Haloperidol (Haldol) - [**2155-3-12**] 01:00 AM
   Morphine Sulfate - [**2155-3-12**] 04:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-12**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 87 (77 - 108) bpm
   BP: 111/57(71) {94/43(57) - 111/74(80)} mmHg
   RR: 25 (5 - 29) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,672 mL
                                                                    189 mL
   PO:
             TF:
                                                                    481 mL
   IVF:
                                                                  1,031 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                    310 mL
                                                                     95 mL
   Urine:
                                                                    310 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,362 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (302 - 467) mL
   PS : 15 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 10.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   255 K/uL
   7.7 g/dL
   80 mg/dL
   4.5 mg/dL
   32 mEq/L
   4.3 mEq/L
   54 mg/dL
   93 mEq/L
   133 mEq/L
   22.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2155-3-6**]  08:45 PM
                             [**2155-3-7**]  02:52 AM
                             [**2155-3-8**]  03:18 AM
                             [**2155-3-9**]  05:05 AM
                             [**2155-3-9**]  02:08 PM
                             [**2155-3-10**]  05:00 AM
                             [**2155-3-10**]  02:26 PM
                             [**2155-3-11**]  05:23 AM
                             [**2155-3-11**]  07:10 PM
                             [**2155-3-12**]  03:15 AM
   WBC
   8.0
   7.8
   8.9
   8.3
   8.2
   7.0
   7.5
   Hct
   21.2
   20.5
   22.0
   19.8
   24.0
   25.0
   23.6
   22.3
   22.3
   Plt
   173
   200
   235
   266
   271
   254
   255
   Cr
   2.0
   2.2
   3.0
   3.2
   3.5
   3.8
   4.1
   4.3
   4.5
   Glucose
   113
   87
   85
   132
   87
   101
   90
   89
   80
   Other labs: PT / PTT / INR:12.7/24.7/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**12-28**], Alk Phos / T Bili:233/0.3,
   Amylase / Lipase:/24, Differential-Neuts:64.4 %, Band:0.0 %, Lymph:20.9
   %, Mono:13.1 %, Eos:1.3 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:140 IU/L, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   Patient
   re-intubated on [**2-28**] for respiratory distress, somnolent, desaturating
   to the 80
s, likely [**3-11**] worsening aspiration pneumonia w/
   persistent/increasing RLL infiltrate on CXR, and elevated white count.
   Now patient has completed 7 day course for VAP tx (Vanc/Cefepime/Flagyl
   [**Date range (1) 11504**]) and has been aggressively diuresed for bilateral pleural
   effusions. Continues to have thick yellow secretions (possibly sinus).
   Likely had aspiration of these secretions vs. mucous plug, resolved.
   Barriers to exubate are underlying end-stage lung disease
   (bronchiolitis obliterans), secretions, and weakness.
   - Will discuss further re: trach
   - daily SBT
   - Sedation w/ propofol and fentanyl bolus
   .
   >  ARF
 Seen by renal, no hydronephrosis on ultrasound, but muddy
   brown casts evident on urine analysis.  Likely ATN secondary to
   possible vancomycin toxicity (elevated troughs 80s-90s) vs episodes of
   hypotension with a component of pre-renal from diuresis.
   - Trend urine output
   - Cont to hold bactrim and acyclovir
   - Appreciate renal
   - Goal is even
   - Monitor lytes
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   - Cont dilt for rate control. Not candidate for anticoagulation given
   poor long term prognosis.
   .
 ANEMIA, OTHER: Hct stable, s/p 2u pRBC.
   - Cont to trend
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont azithromycin
   - holding bactrim and acyclovir IV (given ARF as above)
   .
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   Heparin Allergy, Pneumonitis
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 45M CML s/p BMT c/b BO / GVHD p/w resp
   failure. ARF with rising creatinine (bactrim / acyclovir held). Pt
   expressed wishes to pursue during  family mtg yesterday with onc (Dr.
   [**Last Name (STitle) 1750**].
   Exam notable for Tm 98.4 BP 80-116 sys  HR 81  RR 27  with sat 100 on
   PSV 15/8  0.5. Frail, cachectic man, alert and interactive (writing on
   pad), coarse BS. Hyperdynamic s1s2. Soft +BS, NT. Diffuse skin changes
   c/w GVHD. Labs notable for WBC 7K, HCT 22, K+ 4.2, Cr 4, BUN 52, inr
   1.1.  Renal us w/o hydro, sm ascites
   Agree with plan to manage multifactorial respiratory failure with
   continued vent support - w/ PSV, has failed SBTs.  Lung ds is end-stage
   and prognosis of this alone is very poor, now also with progressive
   ARF. Pt expresses wishes to pursue trach.  Will clarify this with onc
   (? PEG as well) and then d/w IP team best approach (bedside vs.
   OR). Has had recurrent pneumonia, remains off abx, AF w/o leukocytosis.
   Other components
 neuromuscular weakness / restriction, volume
   overload, BO, chronic aspiration more difficult to treat other than
   with ongoing support. ARF is likely from multiple
   medications, continues to make poor UOP.  We are holding bactrim /
   lasix / acyclovir, d/w renal and onc teams. No acute indication at this
   time for HD/CVVH, though will likely need in near future. Pain control
   and anixety remains an active issue--pt requests to stop fent gtt. Will
   start methadone, prn IV fentanyl continuing propofol. Initiate
   klonopin. Consider palliative care cs. Remains on dilt for atrial
   flutter
 continue at current dose. Remainder of plan as outlined
   above.ICU:  Boots, PPI, full code.
   Patient is critically ill
   Total time: 45 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-03-13 07:57:00 Physician Resident Progress Note
Chief Complaint: Abdominal distension
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2155-3-12**] 02:00 PM
   -Spoke with pt's nurse [**First Name8 (NamePattern2) **] [**Last Name (Titles) 223**] [**Hospital 258**] Healthcare ([**Telephone/Fax (1) 11525**]) Blood
   culture [**2-10**] GPC ([**2155-3-9**]) speciation pending, [**2155-3-11**] pending. Urine
   culture on [**2155-3-7**] grew Proteus >100,000 sensitivities: aztreonam,
   ceftazadime, cefepime, cefoxitin, cefuroxime, cefotetan, gentamicin,
   imipenem, levofloxacin, pipericillin, bactrim. Resistant to
   tetracycline. The nurse says that the pt did not have a fever or any
   focal signs of infection. The only concern was increased abdominal
   distension.
   -BNP checked [**Numeric Identifier 11526**] (no baseline)
   -bladder pressure 14
   -GPC in blood cx
   -US showed sludge/GB thickening, CBD not elevated
   -Echo: worsening 4+ TR/RV dysfunction
   -Liver saw pt, want to repeat tap (are confused by SAAG bc not
   consistent w/ portal hypertension/cardiac/etc...transudative process)
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2155-3-12**] 12:45 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2155-3-12**] 10:30 PM
   Fentanyl - [**2155-3-13**] 04:00 AM
   Diltiazem - [**2155-3-13**] 06:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-13**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 133 (78 - 133) bpm
   BP: 91/68(77) {63/43(48) - 118/71(78)} mmHg
   RR: 24 (0 - 40) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                    737 mL
                                                                    656 mL
   PO:
             TF:
   IVF:
                                                                    557 mL
                                                                    656 mL
   Blood products:
   Total out:
                                                                    232 mL
                                                                     30 mL
   Urine:
                                                                    232 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    505 mL
                                                                    626 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 441 (274 - 441) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), Blowing
   LLSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   Hypoactive BS
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   8.0 g/dL
   70 mg/dL
   4.5 mg/dL
   31 mEq/L
   4.1 mEq/L
   22 mg/dL
   99 mEq/L
   139 mEq/L
   24.2 %
   10.1 K/uL
        [image002.jpg]
                             [**2155-3-7**]  02:52 AM
                             [**2155-3-8**]  03:18 AM
                             [**2155-3-9**]  05:05 AM
                             [**2155-3-9**]  02:08 PM
                             [**2155-3-10**]  05:00 AM
                             [**2155-3-10**]  02:26 PM
                             [**2155-3-11**]  05:23 AM
                             [**2155-3-11**]  07:10 PM
                             [**2155-3-12**]  03:15 AM
                             [**2155-3-13**]  06:20 AM
   WBC
   8.0
   7.8
   8.9
   8.3
   8.2
   7.0
   7.5
   10.1
   Hct
   20.5
   22.0
   19.8
   24.0
   25.0
   23.6
   22.3
   22.3
   24.2
   Plt
   173
   200
   235
   266
   271
   254
   255
   252
   Cr
   2.0
   2.2
   3.0
   3.2
   3.5
   3.8
   4.1
   4.3
   4.5
   Glucose
   113
   87
   85
   132
   87
   101
   90
   89
   80
   70
   Other labs: PT / PTT / INR:12.8/23.8/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**11-23**], Alk Phos / T Bili:199/0.5,
   Amylase / Lipase:/24, Differential-Neuts:64.4 %, Band:0.0 %, Lymph:20.9
   %, Mono:13.1 %, Eos:1.3 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   LDH:178 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: RUQ U/S
   1. Normal flow and waveforms within the hepatic vasculature.
   2. Gallbladder wall thickening and sludge within the gallbladder.
   Gallbladder wall thickening is likely due to third spacing in the
   setting of
   hepatitis.
   3. No intrahepatic biliary ductal dilation. CBD measures 5 mm.
   4. Abdominal ascites.
   Echo [**2155-3-12**]
   The left atrium is mildly dilated. The right atrium is markedly
   dilated. Left ventricular wall thicknesses are normal. The left
   ventricular cavity is moderately dilated. Overall left ventricular
   systolic function is severely depressed (LVEF= 20-30 %) secondary to
   extensive septal, anterior, and apical akinesis with anterior septal
   dyskinesis. The right ventricular cavity is dilated with severe global
   free wall hypokinesis. The ascending aorta is moderately dilated. The
   aortic valve leaflets (3) appear structurally normal with good leaflet
   excursion and no aortic regurgitation. The mitral valve leaflets are
   structurally normal. There is no mitral valve prolapse. Mild (1+)
   mitral regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. Severe [4+] tricuspid regurgitation is seen. There is
   moderate pulmonary artery systolic hypertension. The main pulmonary
   artery is dilated. The branch pulmonary arteries are dilated. There is
   a small pericardial effusion. There are no echocardiographic signs of
   tamponade. Echocardiographic signs of tamponade may be absent in the
   presence of elevated right sided pressures.
   Compared with the findings of the prior study (images reviewed) of [**2155-1-28**], no major change.
   Microbiology: C diff negative x 2
   Blood cx x 2 from [**2155-3-11**] growing GPCs in clusters
   Sputum oral flora ([**2155-3-11**])
   Urine cx pending
   Ascites fluid: cx pending
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia:   Patient
   baseline lung disease poor (Bronchiolitis obliterans).  Patient was
   re-intubated on [**2-28**] for respiratory distress secondary to aspiration
   pna.  Has completed a course for VAP.  Plan is for trach today.
   - Trach today by IP
   - Wean propafol as possible, haldol and fentanyl prn agitation
   .
   >  Oliguric RF
 Seen by renal, no hydronephrosis on ultrasound, but
   muddy brown casts evident on urine analysis.  Likely ATN secondary to
   possible vancomycin toxicity (elevated troughs 80s-90s)  and episodes
   of hypotension with a component of pre-renal from diuresis.   Will need
   CVVH for vanc toxicity.
   - CVVH, needs temp line
   - Strict I
   - Cont to hold bactrim and acyclovir
   - Appreciate renal
   - Monitor lytes
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR
   - Cont dilt for rate control. Not candidate for anticoagulation given
   poor long term prognosis.
   .
 ANEMIA, OTHER: Hct stable.
   - Cont to trend
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont azithromycin
   - holding bactrim and acyclovir IV (given ARF as above)
   .
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-03-14 07:53:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 EKG - At [**2155-3-13**] 05:25 PM
   -A flutter RVR in 160s (asymptomatic), required dilt IV pushes, + PO,
   no success, pt started on dilt drip with fair success (still in 115s by
   am)
   -Complaining of persistent pain from skin breakdown, started on
   fentanyl patch
   -Failed PSV 8/8 got tachypneic now back to 15/8
   RSBI = 108 on 0-PEEP and 5 cm PSV.  N.B.: RR was slowly increasing per
   unit time.  Failed RSBI.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAmphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2155-3-12**] 12:45 PM
   Azithromycin - [**2155-3-13**] 04:05 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-3-13**] 07:58 AM
   Haloperidol (Haldol) - [**2155-3-13**] 03:30 PM
   Lorazepam (Ativan) - [**2155-3-13**] 04:06 PM
   Fentanyl - [**2155-3-14**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Flowsheet Data as of  [**2155-3-14**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 104 (82 - 149) bpm
   BP: 108/65(74) {87/45(54) - 113/80(85)} mmHg
   RR: 26 (0 - 33) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,395 mL
                                                                    343 mL
   PO:
             TF:
                                                                     79 mL
                                                                    154 mL
   IVF:
                                                                  1,256 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                     20 mL
   Urine:
                                                                     75 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,320 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 288 (287 - 399) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 108
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Thin, bitemporal wasting
   Head, Ears, Nose, Throat: NG tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
                                  2.2 mg/dL
                                  From 2.6
                                   21.7 %
                                  From 24.2
   231 K/uL
   7.0 g/dL
   91 mg/dL
   31 mEq/L
   3.4 mEq/L
   12 mg/dL
   102 mEq/L
   139 mEq/L
   10.3 K/uL
        [image002.jpg]
                             [**2155-3-8**]  03:18 AM
                             [**2155-3-9**]  05:05 AM
                             [**2155-3-9**]  02:08 PM
                             [**2155-3-10**]  05:00 AM
                             [**2155-3-10**]  02:26 PM
                             [**2155-3-11**]  05:23 AM
                             [**2155-3-11**]  07:10 PM
                             [**2155-3-12**]  03:15 AM
                             [**2155-3-13**]  06:20 AM
                             [**2155-3-14**]  06:06 AM
   WBC
   7.8
   8.9
   8.3
   8.2
   7.0
   7.5
   10.1
   10.3
   Hct
   22.0
   19.8
   24.0
   25.0
   23.6
   22.3
   22.3
   24.2
   21.7
   Plt
   200
   235
   266
   271
   [**Telephone/Fax (2) 11533**]31
   Cr
   2.2
   3.0
   3.2
   3.5
   3.8
   4.1
   4.3
   4.5
   2.6
   2.2
   Glucose
   87
   85
   132
   87
   101
   90
   89
   80
   70
   91
   Vanc 38.1
   ALT / AST:[**9-23**], Alk Phos / T Bili:197/0.5
   Albumin:2.3 g/dL, LDH:151 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   45 y.o. Male with h.o. CML s/p allogenic transplant, chronic GVH,
   bronchiolitis obliterans s/p recent transfer from the ICU for worsening
   dyspnea, AMS requiring intubation. ICU transfer now for A. fib with
   RVR.
   >  Hypercarbic Respiratory failure/Aspiration Pneumonia: Pt s/p
   successful trach. Patient
s baseline lung disease poor (Bronchiolitis
   obliterans).  Patient was re-intubated on [**2-28**] for respiratory distress
   secondary to aspiration pna. Has completed a course for VAP. Pt has
   improved significantly.
   - DC propafol
   - haldol prn agitation, apparently has responded well to this. If no
   improvement, consider benzos
   .
   >  Oliguric RF
 Seen by renal, no hydronephrosis on ultrasound, but
   muddy brown casts evident on urine analysis.  Likely ATN secondary to
   possible vancomycin toxicity (elevated troughs 80s-90s)  and episodes
   of hypotension with a component of pre-renal from diuresis.   Will need
   CVVH for vanc toxicity.
   - Continue CVVH,
   - Strict I
   - Cont to hold bactrim and acyclovir
   - Appreciate renal input
   - Monitor lytes
   .
 ATRIAL FLUTTER (AFLUTTER) with RVR. Uncontrolled this morning,
   temporarily responding to dilt IV pushes but again in RVR.
   - Dilt gtt 5-15mg titrate to goal HR 60-100, hold for SBP<90
   - Cont dilt for rate control.
   - Not candidate for anticoagulation given poor long term prognosis.
   .
 ANEMIA, OTHER: Hct stable.
   - Cont to trend
   .
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   - cont home dose prednisone
   - cont azithromycin
   - holding bactrim and acyclovir IV (given ARF as above)
   .
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2155-3-13**] 04:09 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2155-03-15 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2155-3-14**] 10:01 AM
   Overnight Events:
   Patient got 1 u pRBC with HD yesterday.  Surgery recommended IR guided
   G-tube.
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2155-3-12**] 12:45 PM
   Azithromycin - [**2155-3-13**] 04:05 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2155-3-14**] 08:00 AM
   Fentanyl - [**2155-3-15**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-15**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 95 (86 - 118) bpm
   BP: 110/62(73) {94/54(64) - 114/75(83)} mmHg
   RR: 23 (0 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,164 mL
                                                                    386 mL
   PO:
             TF:
                                                                    717 mL
                                                                    310 mL
   IVF:
                                                                    448 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                     10 mL
   Urine:
                                                                     40 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    124 mL
                                                                    376 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 250 (206 - 292) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 59
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.3 L/min
   Physical Examination
   Gen: Cachectic gentleman
   HEENT: NG tube, trach
   CV: Tachy, no murmurs
   Pulm: Ronchorous BS
   Abd: Thin, ND, NT, NABS
   Neuro: +Hand grip, down going toes, Alert/oriented
   Labs / Radiology
   231 K/uL
   7.0 g/dL
   91 mg/dL
   2.2 mg/dL
   31 mEq/L
   3.4 mEq/L
   12 mg/dL
   102 mEq/L
   139 mEq/L
   24.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2155-3-9**]  05:05 AM
                             [**2155-3-9**]  02:08 PM
                             [**2155-3-10**]  05:00 AM
                             [**2155-3-10**]  02:26 PM
                             [**2155-3-11**]  05:23 AM
                             [**2155-3-11**]  07:10 PM
                             [**2155-3-12**]  03:15 AM
                             [**2155-3-13**]  06:20 AM
                             [**2155-3-14**]  06:06 AM
                             [**2155-3-14**]  09:21 PM
   WBC
   8.9
   8.3
   8.2
   7.0
   7.5
   10.1
   10.3
   Hct
   19.8
   24.0
   25.0
   23.6
   22.3
   22.3
   24.2
   21.7
   24.0
   Plt
   235
   266
   271
   [**Telephone/Fax (3) **]
   231
   Cr
   3.0
   3.2
   3.5
   3.8
   4.1
   4.3
   4.5
   2.6
   2.2
   Glucose
   85
   132
   87
   101
   90
   89
   80
   70
   91
   Other labs: PT / PTT / INR:12.8/23.8/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**9-23**], Alk Phos / T Bili:197/0.5,
   Amylase / Lipase:/24, Differential-Neuts:64.4 %, Band:0.0 %, Lymph:20.9
   %, Mono:13.1 %, Eos:1.3 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, LDH:151 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   45 y.o. Male with h.o. CML s/p allogenic transplant, chronic GVH,
   bronchiolitis obliterans chronic respiratory failure now with trach.
 RESPIRATORY FAILURE, CHRONIC: s/p Trach placement.  Underlying
   disease bronchiolitis obliterans, end stage lung disease.
   -- Continue trials of decreased pressure support
 OLIGURIC RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary
   to ATN (hypotension and supratherapeutic vanc levels). UO continues to
   be low.
   -- Continue HD
   -- Monitor vanc troughs
   -- Follow I
s, Cr
 ATRIAL FLUTTER (AFLUTTER): with RVR. also has tachycardia when
   agitated
   -- Continue PO dilt
   -- Continue clonazepam, continue zyprexa
 ANEMIA: stable s/p transfusion
   -- Trend hct
 ALTERATION IN NUTRITION: PEG unable to be placed during trach.
   Surgery has evaluated and recommended IR guided G-tube.
   -- IR guided G-tube
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   - Cont home dose prednisone
   - Cont azithromycin
   - Cont holding bactrim and acyclovir IV (given ARF as above)
   .
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2155-3-15**] 12:07 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Attending note: I saw and examined the patient, and was physically
   present with the ICU team for the key portions of the services
   provided. I agree with the note above, including the assessment and
   plan. I would emphasize and add the following points:
   45M CML s/p BMT in [**2147**], end-stage lung diseas from BO / GVHD p/w resp
   failure.
   Yesterday, tolerated HD, got 1 unit prbc. Seen by surgery, suggested
   IR-placed feeding tubePSV wean via trach.
   Exam notable for Tm 98.6  BP 110/62, HR 95,  RR 30s, sat 100% on PSV
   [**11-11**], 0.5. Vt ~300
   Urine output 40 cc / 24 hrs
   Frail man, lucid, follows commands. Coarse BS. Hyperdynamic s1s2. Soft
   +BS. Diffuse skin changes c/w GVHD. Labs notable for WBC 10K, HCT 24.8
   (up approp after 1 unit prbc), K 3.6, Cr 1.7 (down from 2.2).
   CXR
 reviewed, diffuse haziness bilat, bilat effusions
   Agree with plan to manage multifactorial respiratory failure with vent
   support and PSV wean / TM trials over weekend. Azithro and pred for BO.
   ARF is progressive, tolerating HD, minimal urine output so far. Dosing
   vanc by level. Currently in sinus, was in A flutter in past, on dilt /
   metoprolol per NGT. Keppra for TL mass / possible seizures. Continue
   TFs; appreciate Dr. [**Last Name (STitle) 1924**]
s input. Will request IR-guided feeding
   tube. PT / OT eval, rehab screening. Fentanyl patch at 75
   / increase klonopin for anxiety. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 33 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 1140**] [**Last Name (NamePattern1) 1135**], MD
   on:[**2155-3-15**] 12:39 ------

2155-03-16 07:03:00 Physician Resident Progress Note
Chief Complaint: A flutter with RVR
   24 Hour Events:
   - getting free water through tube feed
   - ordered ir guided g tube not done
   - Passed PSV 5/5, put back to [**11-11**] overnight will trach collar in AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAmphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2155-3-13**] 04:05 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-16**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 107 (85 - 107) bpm
   BP: 122/64(78) {95/53(66) - 125/73(83)} mmHg
   RR: 27 (0 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,592 mL
                                                                    515 mL
   PO:
             TF:
                                                                  1,072 mL
                                                                    315 mL
   IVF:
                                                                    340 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,577 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 270 (264 - 327) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 250
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 7.2 L/min
   Physical Examination
   Gen: Cachectic chronically ill appearing gentleman, anasarca
   HEENT: NG tube, trach
   CV: Tachy, no murmurs, rubs or gallops
   Pulm: Coarse breath sounds, no WR
   Abd: Thin, ND, NT, NABS
   Neuro: Alert/oriented, follows commands
   Labs / Radiology
   192 K/uL
   8.5 g/dL
   104 mg/dL
   2.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   16 mg/dL
   105 mEq/L
   144 mEq/L
   26.3 %
   12.7 K/uL
        [image002.jpg]
                             [**2155-3-10**]  05:00 AM
                             [**2155-3-10**]  02:26 PM
                             [**2155-3-11**]  05:23 AM
                             [**2155-3-11**]  07:10 PM
                             [**2155-3-12**]  03:15 AM
                             [**2155-3-13**]  06:20 AM
                             [**2155-3-14**]  06:06 AM
                             [**2155-3-14**]  09:21 PM
                             [**2155-3-15**]  08:56 AM
                             [**2155-3-16**]  03:48 AM
   WBC
   8.3
   8.2
   7.0
   7.5
   10.1
   10.3
   12.1
   12.7
   Hct
   25.0
   23.6
   22.3
   22.3
   24.2
   21.7
   24.0
   24.8
   26.3
   Plt
   266
   271
   254
   255
   [**Telephone/Fax (2) 11543**]92
   Cr
   3.5
   3.8
   4.1
   4.3
   4.5
   2.6
   2.2
   1.7
   2.6
   Glucose
   87
   101
   90
   89
   80
   70
   91
   108
   104
   Other labs: PT / PTT / INR:12.8/23.8/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**9-23**], Alk Phos / T Bili:197/0.5,
   Amylase / Lipase:/24, Differential-Neuts:64.4 %, Band:0.0 %, Lymph:20.9
   %, Mono:13.1 %, Eos:1.3 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, LDH:151 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:2.3
   mg/dL
   Fluid analysis / Other labs: Vanc 25.8
   Imaging: CXR [**2155-3-15**]:
   FINDINGS: Unchanged position of the tracheostomy tube, unchanged course
   of the right central venous access line and of the nasogastric tube.
   Unchanged extensive right-sided pleural effusion with subsequent
   atelectasis, the extent of the effusion has even increased since the
   previous examination. The extent of the pre-existing left-sided pleural
   effusion is not substantially changed.  Unchanged moderate
   cardiomegaly, unchanged bilateral areas of atelectasis.
   45 y.o. Male with h.o. CML s/p allogenic transplant, chronic GVH,
   bronchiolitis obliterans chronic respiratory failure now with trach.
 RESPIRATORY FAILURE, CHRONIC: s/p Trach placement.  Underlying
   disease bronchiolitis obliterans, end stage lung disease. Improving
   with passing 5/5 PSV trial yesterday.
   -- Continue trials of decreased pressure support
 OLIGURIC RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary
   to ATN (hypotension and supratherapeutic vanc levels). UO continues to
   be low (0 overnight).
   -- Continue HD per renal (likely tomorrow)
   -- Monitor daily vanc levels
   -- Follow I
s, Cr
 ATRIAL FLUTTER (AFLUTTER): with RVR. Currently in NSR. Increases his
   tachycardia when agitated.
   -- Continue PO dilt
   -- Continue clonazepam, continue zyprexa
 ANEMIA: stable s/p transfusion
   -- Trend hct
 ALTERATION IN NUTRITION: PEG unable to be placed during trach.
   Surgery has evaluated and recommended IR guided G-tube.
   -- IR guided G-tube likely tomorrow (Monday)
   -- holding tube feeds at midnight
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   - Cont home dose prednisone
   - Cont azithromycin
   - Cont holding bactrim and acyclovir IV (given ARF as above)
   .
   .
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2155-3-15**] 12:07 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2155-03-16 12:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45M CML s/p BMT in [**2147**], end-stage lung diseas from BO / GVHD p/w resp
   failure.
   24 Hour Events:
   Free H2O via NGT
   Tolerated PSV 5/5 yesterday
   Fent patch increased to 75 mcg dose
   Still c/o back pain, not new
   Allergies:
   Amphotericin B
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Last dose of Antibiotics:
   Azithromycin - [**2155-3-13**] 04:05 PM
   Other medications:
   Reviewed
 azithro, pred 5, keppra, thiam, metop, clonaz, dilt 90 qid,
   olanz, ppi, fent 75
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-16**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 112 (85 - 112) bpm
   BP: 98/69(77) {95/56(67) - 129/91(96)} mmHg
   RR: 26 (0 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,592 mL
                                                                    996 mL
   PO:
             TF:
                                                                  1,072 mL
                                                                    561 mL
   IVF:
                                                                    340 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,577 mL
                                                                    996 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (264 - 327) mL
   PS : 10 cmH2O
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 250
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube, Trach
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, diffuse skin changes c/w GVHD
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   192 K/uL
   104 mg/dL
   2.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   16 mg/dL
   105 mEq/L
   144 mEq/L
   26.3 %
   12.7 K/uL
        [image002.jpg]
                             [**2155-3-10**]  05:00 AM
                             [**2155-3-10**]  02:26 PM
                             [**2155-3-11**]  05:23 AM
                             [**2155-3-11**]  07:10 PM
                             [**2155-3-12**]  03:15 AM
                             [**2155-3-13**]  06:20 AM
                             [**2155-3-14**]  06:06 AM
                             [**2155-3-14**]  09:21 PM
                             [**2155-3-15**]  08:56 AM
                             [**2155-3-16**]  03:48 AM
   WBC
   8.3
   8.2
   7.0
   7.5
   10.1
   10.3
   12.1
   12.7
   Hct
   25.0
   23.6
   22.3
   22.3
   24.2
   21.7
   24.0
   24.8
   26.3
   Plt
   266
   271
   254
   255
   [**Telephone/Fax (2) 11543**]92
   Cr
   3.5
   3.8
   4.1
   4.3
   4.5
   2.6
   2.2
   1.7
   2.6
   Glucose
   87
   101
   90
   89
   80
   70
   91
   108
   104
   Other labs: PT / PTT / INR:12.8/23.8/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**9-23**], Alk Phos / T Bili:197/0.5,
   Amylase / Lipase:/24, Differential-Neuts:64.4 %, Band:0.0 %, Lymph:20.9
   %, Mono:13.1 %, Eos:1.3 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, LDH:151 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER) with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   45M CML s/p BMT in [**2147**], end-stage lung diseas from BO / GVHD p/w resp
   failure.
   Acute/chronic resp failure: agree with plan to manage multifactorial
   respiratory failure with vent support and PSV wean / TM trials if
   tolerates. On Azithro and prednisone for BO.
   ARF is progressive, tolerating HD, minimal urine output. Dosing vanc by
   level. Appreciate renal recs. Likely HD in AM
   Aflutter: currently in sinus, on dilt / metoprolol per NGT.
   TL mass/possible seizures: on Keppra
   Nutrition: IR-guided PEG placement tomorrow. Continue TFs; appreciate
   Dr. [**Last Name (STitle) 1924**]
s input.
   PT / OT eval, rehab screening. Fentanyl patch at 75 / klonopin for
   anxiety.
   Remainder of plan as outlined in Dr [**Last Name (STitle) 11548**]
s note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2155-3-16**] 11:49 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: RSBI
   Communication: ICU consent signed
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2155-03-17 07:50:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   - Pt did not do well with taking away PSV
   - Tube feeds held at MN in anticipation for PEG tube placement today
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAmphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2155-3-17**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Flowsheet Data as of  [**2155-3-17**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 100 (88 - 112) bpm
   BP: 100/58(67) {92/51(60) - 129/91(96)} mmHg
   RR: 25 (0 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,731 mL
                                                                     50 mL
   PO:
             TF:
                                                                  1,081 mL
   IVF:
                                                                    240 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,681 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 233 (207 - 321) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 178
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: NG tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   8.1 g/dL
   79 mg/dL
   3.4 mg/dL
   36 mEq/L
   4.3 mEq/L
   23 mg/dL
   102 mEq/L
   143 mEq/L
   24.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2155-3-10**]  02:26 PM
                             [**2155-3-11**]  05:23 AM
                             [**2155-3-11**]  07:10 PM
                             [**2155-3-12**]  03:15 AM
                             [**2155-3-13**]  06:20 AM
                             [**2155-3-14**]  06:06 AM
                             [**2155-3-14**]  09:21 PM
                             [**2155-3-15**]  08:56 AM
                             [**2155-3-16**]  03:48 AM
                             [**2155-3-17**]  04:14 AM
   WBC
   8.2
   7.0
   7.5
   10.1
   10.3
   12.1
   12.7
   12.0
   Hct
   23.6
   22.3
   22.3
   24.2
   21.7
   24.0
   24.8
   26.3
   24.9
   Plt
   271
   254
   255
   [**Telephone/Fax (2) 11553**]83
   Cr
   3.8
   4.1
   4.3
   4.5
   2.6
   2.2
   1.7
   2.6
   3.4
   Glucose
   101
   90
   89
   80
   70
   91
   108
   104
   79
   Other labs: PT / PTT / INR:11.7/22.3/1.0, Ca++:8.2 mg/dL, Mg++:2.7
   mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: VANC 22
   Assessment and Plan
   45 y.o. Male with h.o. CML s/p allogenic transplant, chronic GVH,
   bronchiolitis obliterans chronic respiratory failure now with trach.
 RESPIRATORY FAILURE, CHRONIC: s/p Trach placement.  Underlying
   disease bronchiolitis obliterans, end stage lung disease
   -- Continue trials of decreased pressure support
 OLIGURIC RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary
   to ATN (hypotension and supratherapeutic vanc levels). UO continues to
   be low (0 overnight).
   -- Continue HD per renal
   -- Monitor daily vanc levels
   -- Follow I
s, Cr
 ATRIAL FLUTTER (AFLUTTER): with RVR. Currently in NSR..
   -- Continue PO dilt
   -- Continue clonazepam, continue zyprexa
 ANEMIA: stable s/p transfusion
   -- Trend hct
 ALTERATION IN NUTRITION: PEG unable to be placed during trach.
   Surgery has evaluated and recommended IR guided G-tube.
   -- IR guided G-tube likely today
   -- held tube feeds at midnight
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   -- Cont home dose prednisone
   -- Cont azithromycin
   -- Cont holding bactrim and acyclovir IV (given ARF as above)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2155-03-17 07:57:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   - Pt did not do well with trach mask trial
   - Tube feeds held at MN in anticipation for PEG tube placement today,
   which wont happen until tomorrow
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2155-3-17**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-17**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 100 (88 - 112) bpm
   BP: 100/58(67) {92/51(60) - 129/91(96)} mmHg
   RR: 25 (0 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  1,731 mL
                                                                     50 mL
   PO:
             TF:
                                                                  1,081 mL
   IVF:
                                                                    240 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,681 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 233 (207 - 321) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 178
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 5.9 L/min
   Physical Examination
   Gen: Cachectic chronically ill appearing gentleman
   HEENT: NG tube, trach
   CV: Tachy, no murmurs, rubs or gallops
   Pulm: Coarse breath sounds, no WR
   Abd: Thin, ND, NT, NABS
   Neuro: Alert/oriented, follows commands
   Labs / Radiology
   183 K/uL
   8.1 g/dL
   79 mg/dL
   3.4 mg/dL
   36 mEq/L
   4.3 mEq/L
   23 mg/dL
   102 mEq/L
   143 mEq/L
   24.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2155-3-10**]  02:26 PM
                             [**2155-3-11**]  05:23 AM
                             [**2155-3-11**]  07:10 PM
                             [**2155-3-12**]  03:15 AM
                             [**2155-3-13**]  06:20 AM
                             [**2155-3-14**]  06:06 AM
                             [**2155-3-14**]  09:21 PM
                             [**2155-3-15**]  08:56 AM
                             [**2155-3-16**]  03:48 AM
                             [**2155-3-17**]  04:14 AM
   WBC
   8.2
   7.0
   7.5
   10.1
   10.3
   12.1
   12.7
   12.0
   Hct
   23.6
   22.3
   22.3
   24.2
   21.7
   24.0
   24.8
   26.3
   24.9
   Plt
   271
   254
   255
   [**Telephone/Fax (2) 11553**]83
   Cr
   3.8
   4.1
   4.3
   4.5
   2.6
   2.2
   1.7
   2.6
   3.4
   Glucose
   101
   90
   89
   80
   70
   91
   108
   104
   79
   Other labs: PT / PTT / INR:11.7/22.3/1.0, Ca++:8.2 mg/dL, Mg++:2.7
   mg/dL, PO4:2.5 mg/dL
   Other labs: VANC 22
   Assessment and Plan
   45 y.o. Male with h.o. CML s/p allogenic transplant, chronic GVH,
   bronchiolitis obliterans chronic respiratory failure now with trach.
 RESPIRATORY FAILURE, CHRONIC: s/p Trach placement.  Underlying
   disease bronchiolitis obliterans, end stage lung disease
   -- Continue trials of decreased pressure support
 OLIGURIC RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary
   to ATN (hypotension and supratherapeutic vanc levels). UO continues to
   be low (0 overnight).
   -- Continue HD per renal
   -- Monitor daily vanc levels
   -- Follow I
s, Cr
 ATRIAL FLUTTER (AFLUTTER): with RVR. Currently in NSR..
   -- Continue PO dilt
   -- Continue clonazepam, continue zyprexa
 ANEMIA: stable s/p transfusion
   -- Trend hct
 ALTERATION IN NUTRITION: PEG unable to be placed during trach.
   Surgery has evaluated and recommended IR guided G-tube.
   -- IR guided G-tube likely tomorrow
   -- held tube feeds at midnight
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   -- Cont home dose prednisone
   -- Cont azithromycin
   -- Cont holding bactrim and acyclovir IV (given ARF as above)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-03-18 07:24:00 Physician Resident Progress Note
Chief Complaint: [**2155-3-17**]:
   -NPO for Gtube tomorrow
   -cultures sent for rising WBC
   -Fungal proph added per onc recs
   -keppra changed to HD dosing
   24 Hour Events:
 DIALYSIS CATHETER - START [**2155-3-17**] 07:00 PM
   right
 URINE CULTURE - At [**2155-3-17**] 09:00 PM
 BLOOD CULTURED - At [**2155-3-17**] 10:30 PM
   peripheral
 MIDLINE - STOP [**2155-3-17**] 10:49 PM
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2155-3-17**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-18**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 94 (90 - 105) bpm
   BP: 100/59(69) {92/51(61) - 114/68(77)} mmHg
   RR: 24 (21 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
                  Total In:
                                                                    180 mL
                                                                    130 mL
   PO:
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,300 mL
                                                                      0 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,120 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 375 (237 - 375) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 167
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   7.7 g/dL
   76 mg/dL
   2.3 mg/dL
   33 mEq/L
   4.0 mEq/L
   13 mg/dL
   103 mEq/L
   142 mEq/L
   23.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2155-3-11**]  05:23 AM
                             [**2155-3-11**]  07:10 PM
                             [**2155-3-12**]  03:15 AM
                             [**2155-3-13**]  06:20 AM
                             [**2155-3-14**]  06:06 AM
                             [**2155-3-14**]  09:21 PM
                             [**2155-3-15**]  08:56 AM
                             [**2155-3-16**]  03:48 AM
                             [**2155-3-17**]  04:14 AM
                             [**2155-3-18**]  04:23 AM
   WBC
   7.0
   7.5
   10.1
   10.3
   12.1
   12.7
   12.0
   10.9
   Hct
   22.3
   22.3
   24.2
   21.7
   24.0
   24.8
   26.3
   24.9
   23.4
   Plt
   [**Telephone/Fax (2) 11564**]
   183
   172
   Cr
   4.1
   4.3
   4.5
   2.6
   2.2
   1.7
   2.6
   3.4
   2.3
   Glucose
   90
   89
   80
   70
   91
   108
   104
   79
   76
   Other labs: PT / PTT / INR:11.7/22.3/1.0, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**9-24**], Alk Phos / T Bili:325/0.4,
   Amylase / Lipase:/24, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:10.5
   %, Mono:6.0 %, Eos:1.4 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, LDH:165 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   45 y.o. Male with h.o. CML s/p allogenic transplant, chronic GVH,
   bronchiolitis obliterans chronic respiratory failure now with trach.
 RESPIRATORY FAILURE, CHRONIC: s/p Trach placement.  Underlying
   disease bronchiolitis obliterans, end stage lung disease
   -- Continue trials of decreased pressure support
 OLIGURIC RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary
   to ATN (hypotension and supratherapeutic vanc levels). UO continues to
   be low (0 overnight).
   -- Continue HD per renal
   -- Monitor daily vanc levels
   -- Follow I
s, Cr
 ATRIAL FLUTTER (AFLUTTER): with RVR. Currently in NSR..
   -- Continue PO dilt
   Anxiety
   -- Continue clonazepam, continue zyprexa
 ANEMIA: stable s/p transfusion
   -- Trend hct
 ALTERATION IN NUTRITION: PEG unable to be placed during trach.
   Surgery has evaluated and recommended IR guided G-tube.
   -- IR guided G-tube likely tomorrow
   -- held tube feeds at midnight
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   -- Cont home dose prednisone
   -- Cont azithromycin
   -- Cont holding bactrim and acyclovir IV (given ARF as above)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 45M CML s/p BMT c/b BO / GVHD p/w resp
   failure. Tolerating HD, PSV wean via trach, TM trial x15 min yesterday.
   Exam notable for Tm 98.9 BP 100/60 HR 70-100/AFL RR 18 with sat 100 on
   PSV 10/5 0.5. Frail man, lucid, follows commands. Coarse BS.
   Hyperdynamic s1s2. Soft +BS. Diffuse skin changes c/w GVHD. Labs
   notable for WBC 12K, HCT 24, K 4.3, Cr 3.4.
   Agree with plan to manage multifactorial respiratory failure with vent
   support and PSV wean / TM trials today; continue azithro and pred for
   BO. Pan-cx for rising WBC count, off abx for the moment. ARF is
   progressive, tolerating HD, will check f/u vanco level. Atrial flutter
dilt / metoprolol per NGT. Keppra for TL mass / possible seizures -
   give after HD. Continue TFs today; awaiting IR PEG tube on [**3-18**]. PT / OT
   eval, rehab screening. Fentanyl patch / klonopin for anxiety. Remainder
   of plan as outlined above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-12**] 11:01 PM
   Dialysis Catheter - [**2155-3-17**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-03-19 07:57:00 Physician Resident Progress Note
Chief Complaint: A. fib with RVR.
   24 Hour Events:
 FLUOROSCOPY - At [**2155-3-18**] 03:25 PM
   G-tube placement.
 BRONCHOSCOPY - At [**2155-3-18**] 06:25 PM
   [**2155-3-18**]:
   -PEG placed.
   -Bleeding around trach.  IP came to evaluate: saw a clot in the
   suprastomal area which was suctioned with no residual active bleeding
   between 2nd/3rd ring during bronch.  Applied lidocain/epi.
   -There was a concern for tracheal innominate fistula.  Had a long
   discussion between IP, heme/onc, radiology, surgery regarding MRA vs
   CTA (given his renal failure).  Ultimately, he needed stat CTA neck.
   Discussed this with patient and his wife to great depths.  He was
   premedicated with sodium bicarb, famotidine, benadryl, and zofran.
   History obtained from Patient
   Allergies:
   History obtained from PatientAmphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2155-3-18**] 08:15 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2155-3-19**] 04:00 AM
   Dilantin - [**2155-3-19**] 06:00 AM
   Fentanyl - [**2155-3-19**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Flowsheet Data as of  [**2155-3-19**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.2
C (97.2
   HR: 91 (84 - 100) bpm
   BP: 117/73(82) {94/46(57) - 118/74(85)} mmHg
   RR: 16 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                    328 mL
                                                                  1,079 mL
   PO:
             TF:
   IVF:
                                                                     88 mL
                                                                  1,079 mL
   Blood products:
   Total out:
                                                                     39 mL
                                                                     15 mL
   Urine:
                                                                     39 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    289 mL
                                                                  1,064 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 272 (272 - 290) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 616
   PIP: 30 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: Mild epigastric TTP
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   176 K/uL
   7.1 g/dL
   64 mg/dL
   3.2 mg/dL
   30 mEq/L
   4.3 mEq/L
   22 mg/dL
   102 mEq/L
   141 mEq/L
   22.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2155-3-13**]  06:20 AM
                             [**2155-3-14**]  06:06 AM
                             [**2155-3-14**]  09:21 PM
                             [**2155-3-15**]  08:56 AM
                             [**2155-3-16**]  03:48 AM
                             [**2155-3-17**]  04:14 AM
                             [**2155-3-18**]  04:23 AM
                             [**2155-3-18**]  07:15 PM
                             [**2155-3-19**]  04:20 AM
                             [**2155-3-19**]  06:20 AM
   WBC
   10.1
   10.3
   12.1
   12.7
   12.0
   10.9
   10.5
   11.0
   Hct
   24.2
   21.7
   24.0
   24.8
   26.3
   24.9
   23.4
   24.0
   22.9
   Plt
   [**Telephone/Fax (3) 11543**]92
   183
   172
   179
   176
   Cr
   2.6
   2.2
   1.7
   2.6
   3.4
   2.3
   3.2
   Glucose
   70
   91
   108
   104
   79
   76
   64
   Other labs: PT / PTT / INR:12.8/24.5/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**9-24**], Alk Phos / T Bili:325/0.4,
   Amylase / Lipase:/24, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:10.5
   %, Mono:6.0 %, Eos:1.4 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, LDH:165 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Imaging: CXR AP [**2155-3-18**]:
   The tracheostomy tip is approximately 3.5 cm above the carina. The NG
   tube
   tip passes below the diaphragm with its tip not clearly seen. The right
   central venous line tip is at the cavoatrial junction.
   Cardiomediastinal
   silhouette is stable. Bilateral pleural effusions are unchanged as well
   as
   moderate-to-severe pulmonary edema. The above-described findings might
   obscure infection and if clinically warranted further evaluation with
   chest CT might be considered.
   Microbiology: [**2155-3-18**]
   Gram stain no organisms seen
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   45 y.o. Male with h.o. CML s/p allogenic transplant, chronic GVH,
   bronchiolitis obliterans chronic respiratory failure now with trach.
 RESPIRATORY FAILURE, CHRONIC: s/p Trach placement.  Underlying
   disease bronchiolitis obliterans, end stage lung disease
   -- Continue trials of decreased pressure support
   Bleeding: Likely superficial
   -Touch base with IP whether wound exploration is warranted.
   -F/u CTA Neck final read
 OLIGURIC RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary
   to ATN (hypotension and supratherapeutic vanc levels) with low urine
   output. Vanc levels trending down.
   -- HD on hold for PEG today
   -- Monitor daily vanc levels
   -- Follow I
s, Cr
 ATRIAL FLUTTER (AFLUTTER): with RVR. Currently in NSR..
   -- Continue PO dilt
 Anxiety
   -- Continue clonazepam, continue zyprexa
   -- Fentanyl patch
 ANEMIA: stable s/p transfusion
   -- Trend hct
 ALTERATION IN NUTRITION: PEG unable to be placed during trach.
   Surgery has evaluated and recommended IR guided G-tube.
   -- IR guided G-tube possibly on hold given flouro down
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   -- Cont home dose prednisone
   -- Cont azithromycin
   -- Cont holding bactrim and acyclovir IV (given ARF as above)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition: Plan for PEG
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 45M CML s/p BMT c/b BO / GVHD p/w resp
   failure. Tolerating HD, PSV wean via trach, TM trial x15 min yesterday.
   Exam notable for Tm 99.8 BP 100/59 HR 80/AFL RR 18 with sat 100 on
   PSV 10/5 0.5. Frail man, lucid, follows commands. New bleeding at trach
   site. Coarse BS. Hyperdynamic s1s2. Soft +BS. Diffuse skin changes c/w
   GVHD. Labs notable for WBC 11K, HCT 23, K 4.0, Cr 2.3.
   Agree with plan to manage multifactorial respiratory failure with vent
   support and PSV wean; continue azithro and pred for BO. Will consider
   TM trials after procedures. Trach bleed needs to be assessed by IP now,
   page sent
 likely superficial bleed but may need wound exploration.
   ARF is progressive, tolerating HD, will check f/u vanco level. Atrial
   flutter
dilt / metoprolol per NGT. Keppra for TL mass / possible
   seizures - give after HD. Continue TFs today; awaiting IR PEG tube
   today. PT / OT eval, rehab screening. Fentanyl patch / klonopin for
   anxiety
 working well. Remainder of plan as outlined above.
   Total time: 35 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-12**] 11:01 PM
   Dialysis Catheter - [**2155-3-17**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-03-20 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CTA neck prelim negative for innominate artery
   -No episodes of bleeding
   -DC'd cefazolin
   -IP saw pt said trach looks good, other IP atg to come tonight or
   tomorrow for [**Female First Name (un) **] bc they are very busy
   -Got HD from 1-2pm and renal asking whether he needs a tunneled line
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2155-3-18**] 08:15 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2155-3-20**] 03:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-20**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 95 (85 - 113) bpm
   BP: 109/60(70) {106/57(68) - 125/99(105)} mmHg
   RR: 29 (16 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
             Total In:
                                                                  2,804 mL
                                                                    418 mL
   PO:
             TF:
                                                                    224 mL
                                                                    318 mL
   IVF:
                                                                  2,240 mL
                                                                     20 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                      0 mL
   Urine:
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -251 mL
                                                                    419 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 229 (202 - 280) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 127
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 6.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   176 K/uL
   7.1 g/dL
   64 mg/dL
   3.2 mg/dL
   30 mEq/L
   4.3 mEq/L
   11 mg/dL
   102 mEq/L
   141 mEq/L
   22.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2155-3-13**]  06:20 AM
                             [**2155-3-14**]  06:06 AM
                             [**2155-3-14**]  09:21 PM
                             [**2155-3-15**]  08:56 AM
                             [**2155-3-16**]  03:48 AM
                             [**2155-3-17**]  04:14 AM
                             [**2155-3-18**]  04:23 AM
                             [**2155-3-18**]  07:15 PM
                             [**2155-3-19**]  04:20 AM
                             [**2155-3-19**]  06:20 AM
   WBC
   10.1
   10.3
   12.1
   12.7
   12.0
   10.9
   10.5
   11.0
   Hct
   24.2
   21.7
   24.0
   24.8
   26.3
   24.9
   23.4
   24.0
   22.9
   Plt
   [**Telephone/Fax (3) 11543**]92
   183
   172
   179
   176
   Cr
   2.6
   2.2
   1.7
   2.6
   3.4
   2.3
   3.2
   Glucose
   70
   91
   108
   104
   79
   76
   64
   Other labs: PT / PTT / INR:12.8/24.5/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**9-24**], Alk Phos / T Bili:325/0.4,
   Amylase / Lipase:/24, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:10.5
   %, Mono:6.0 %, Eos:1.4 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, LDH:165 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   45 y.o. Male with h.o. CML s/p allogenic transplant, chronic GVH,
   bronchiolitis obliterans chronic respiratory failure now with trach.
 RESPIRATORY FAILURE, CHRONIC: s/p Trach placement.  Underlying
   disease bronchiolitis obliterans, end stage lung disease
   -- Continue trials of decreased pressure support
   -- Continue HD and UF
   -- IP consult to tap pleural effusions which will hopefully make pt
   less ventilator dependent
 ANXIETY: Likely superficial bleeding given quick control with local
   epi. CT neck on my read negative. Low concern for arterial erosion into
   airway.
   -Monitor wound site closely for signs of bleeding.
   -F/u CTA Neck final read
 OLIGURIC RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary
   to ATN (hypotension and supratherapeutic vanc levels) with low urine
   output. Vanc levels trending down. Pt likely will have needed HD
   permanently, therefore CTA unlikely to be harmful.
   -- Continue HD and attempt U/F
   -- Monitor daily vanc levels
   -- Follow I
s, Cr
 ATRIAL FLUTTER (AFLUTTER): with RVR. Currently in NSR..
   -- Continue PO dilt and metoprolol
 Anxiety
   -- Continue clonazepam, continue zyprexa
   -- Continue Fentanyl patch
 ANEMIA: stable s/p transfusion for now although slightly trending
   down.
   -- Trend hct
   -- PM HCT
 ALTERATION IN NUTRITION: s/p PEG
   -- Start tube feeds via PEG tube
   -- Elevate HOB to 30 degrees
   -- Aspiration precautions
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   -- Cont home dose prednisone
   -- Cont azithromycin
   -- Hold bactrim and acyclovir IV and restart as outpatient per BMT team
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition: PEG tube:
   Tubefeeding: Isosource 1.5 Cal Full strength;
   Starting rate: 10 ml/hr; Advance rate by 20 ml q6h Goal rate: 45 ml/hr
   Residual Check: q4h Hold feeding for residual >= : 200 ml
   Flush w/ 50 ml water q6h
   Glycemic Control:
   Lines:
   Midline - [**2155-2-25**] 03:51 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely to LTAC tomorrow
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 45M CML s/p BMT c/b BO / GVHD p/w resp
   failure. IR PEG placed, CT s e/o tracheo-inominate fistula.
   Exam notable for Tm 99.8 BP 110/59 HR 90/AFL RR 18 with sat 100 on VAC
   450x16 5 0.5. Frail man, lucid, follows commands. No new bleeding at
   trach site. Coarse BS. Hyperdynamic s1s2. Soft +BS. Diffuse skin
   changes c/w GVHD. Labs notable for WBC 11K, HCT 22, K 4.3, Cr 3.2.
   Agree with plan to manage multifactorial respiratory failure with vent
   support and PSV wean; continue azithro and pred for BO, HD for volume
   removal and IP consult for R thoracentesis to assist in weaning. Will
   consider TM trials after procedures. Trach bleed stable, will confirm
   no TIF on final CT read. ARF continues with minimal UOP, tolerating HD,
   would favor aggressive volume removal to assist in weaning. Atrial
   flutter
 dilt / metoprolol per NGT. Keppra for TL mass / possible
   seizures - give after HD. Will d/w BMT re acyclovir and bactrim
   prophylaxis, continue fluconazole. Resume TFs today, monitor FSG. PT /
   OT eval, rehab screening. Fentanyl patch / klonopin for anxiety
   working well. Remainder of plan as outlined above.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2155-3-19**] 02:56 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2155-2-12**] 11:01 PM
   Dialysis Catheter - [**2155-3-17**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-03-21 07:00:00 Physician Resident Progress Note
Chief Complaint: - Respiratory culture from [**3-18**] showed a rare yeast.
   - Morning labs HCO3=34
   - ABG showed CO2=76 so placed back on vent.
   - Transfused 1 unit PRBC.
   - No thoracentesis today because patient was off vent.
   - [**Hospital 2773**] rehab bed.
   - Written for morphine PRN. Fentanyl DC'ed.
   - Appointment made for visit back to ICU.
   24 Hour Events:
   Allergies:
   Amphotericin B
   Unknown;
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Unknown;
   Campath (Intraven.) (Alemtuzumab)
   Fever/Chills; R
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2155-3-18**] 08:15 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2155-3-20**] 10:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-3-21**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 106 (88 - 115) bpm
   BP: 111/61(81) {91/41(51) - 130/77(87)} mmHg
   RR: 20 (16 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 61.6 kg
   Height: 71 Inch
                  Total In:
                                                                  1,522 mL
                                                                    140 mL
   PO:
                  TF:
                                                                    917 mL
   IVF:
                                                                     20 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    266 mL
                                                                     40 mL
   Urine:
                                                                     26 mL
                                                                     40 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                  1,256 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 241) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 400
   PIP: 37 cmH2O
   SpO2: 100%
   ABG: 7.31/76.[**Numeric Identifier 128**]/92.[**Numeric Identifier 1176**]/34/7
   Ve: 6.9 L/min
   PaO2 / FiO2: 155
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   7.8 g/dL
   126 mg/dL
   3.0 mg/dL
   34 mEq/L
   4.5 mEq/L
   18 mg/dL
   102 mEq/L
   141 mEq/L
   25.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2155-3-14**]  09:21 PM
                             [**2155-3-15**]  08:56 AM
                             [**2155-3-16**]  03:48 AM
                             [**2155-3-17**]  04:14 AM
                             [**2155-3-18**]  04:23 AM
                             [**2155-3-18**]  07:15 PM
                             [**2155-3-19**]  04:20 AM
                             [**2155-3-19**]  06:20 AM
                             [**2155-3-20**]  02:44 PM
                             [**2155-3-20**]  02:49 PM
   WBC
   12.1
   12.7
   12.0
   10.9
   10.5
   11.0
   12.4
   Hct
   24.0
   24.8
   26.3
   24.9
   23.4
   24.0
   22.9
   25.0
   Plt
   195
   192
   183
   172
   179
   176
   208
   Cr
   1.7
   2.6
   3.4
   2.3
   3.2
   3.0
   TCO2
   40
   Glucose
   108
   104
   79
   76
   64
   126
   Other labs: PT / PTT / INR:12.6/23.5/1.1, CK / CKMB /
   Troponin-T:14/2/0.05, ALT / AST:[**9-24**], Alk Phos / T Bili:325/0.4,
   Amylase / Lipase:/24, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:10.5
   %, Mono:6.0 %, Eos:1.4 %, D-dimer:2192 ng/mL, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, LDH:165 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
   with RVR
 ANEMIA, OTHER
 ALKALOSIS, METABOLIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   Heparin Allergy, Pneumonitis
   45 y.o. Male with h.o. CML s/p allogenic transplant, chronic GVH,
   bronchiolitis obliterans chronic respiratory failure now with trach.
 RESPIRATORY FAILURE, CHRONIC: s/p Trach placement, not requiring vent
   today.  Underlying disease bronchiolitis obliterans, end stage lung
   disease.  No tracheal innominate fistula/avm/high grade stenosis on CTA
   neck.  Trach bleed likely superficial.
   -- Hold off on [**Female First Name (un) **] as patient nolonger requiring vent
 ANXIETY:
   -- Cont fentanyl patch, olanzapine
   -- Switch fentanyl iv to morphine prn
 OLIGURIC RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary
   to ATN (hypotension and supratherapeutic vanc levels) with low urine
   output. Vanc levels trending down.  Will be difficult to place tunneled
   line in patient with thin dermis and easily friable thin skin.
   -- Continue dialysis while at rehab
 ATRIAL FLUTTER (AFLUTTER): with RVR. Currently in NSR..
   -- Continue PO dilt and metoprolol
 ANEMIA: Stable s/p transfusion.
 NUTRITION: s/p PEG
   -- Continue tube feeds via PEG tube
   -- Elevate HOB to 30 degrees
   -- Aspiration precautions
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER: Complicated by chronic GVHD
   and bronchiolitis obliterans.
   -- Cont home dose prednisone
   -- Cont azithromycin
   -- Hold bactrim and acyclovir IV and restart as outpatient per BMT team
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Allergy, Pneumonitis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2155-2-12**] 11:01 PM
   Dialysis Catheter - [**2155-3-17**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: